2141-03-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - developed more dyspnea and had to be placed back in BiPAP, improved
   after
   - CXR with ?infiltrate on L
   - given cefepime (had already gotten vanc/levo in ED)
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Cefipime - [**2141-3-3**] 08:15 PM
   Vancomycin - [**2141-3-3**] 09:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-3**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   C/o some diaphoresis and lightheadedness; No CP
   Flowsheet Data as of  [**2141-3-4**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 93 (70 - 98) bpm
   BP: 104/61(71) {84/26(53) - 127/84(89)} mmHg
   RR: 25 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 72 Inch
                  Total In:
                                                                    980 mL
                                                                     80 mL
   PO:
                                                                    480 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    200 mL
   Urine:
                                                                  2,650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,520 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (541 - 541) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.48/37/80.[**Numeric Identifier 176**]/27/3
   Ve: 9.3 L/min
   PaO2 / FiO2: 80
   Physical Examination
   GENERAL: Alert; Oriented x3. Uncomfortable; fidgety. Diaphoretic.
   High-flow O2 mask on.
   HEENT: NC/AT.
   NECK: Supple. Unable to appreciate JVP.
   CARDIAC: Difficult to hear over breath sounds; No m/r/g appreciated.
   LUNGS: Resp slightly labored; bilateral crackles and coarse breath
   sounds.
   ABDOMEN: Obese, Soft, NTND. No HSM or tenderness noted. Ventral hernia
   present.
   EXTREMITIES: No significant LE edema noted. No calf pain.
   Labs / Radiology
   174 K/uL
   11.5 g/dL
   131 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   33.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2141-3-3**]  05:38 PM
                             [**2141-3-3**]  08:15 PM
                             [**2141-3-4**]  04:30 AM
   WBC
   7.4
   Hct
   33.9
   Plt
   174
   Cr
   1.2
   1.1
   TropT
   <0.01
   TCO2
   28
   Glucose
   134
   131
   Other labs: CK / CKMB / Troponin-T:232/3/<0.01, Lactic Acid:1.4 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but now
   suspicious for pneumonia.
   .
   # Dyspnea: Overnight, the patient had recurrent of dyspnea. Repeat CXR
   showed a more clear left-sided infiltrate. Also, of note, pt had fevers
   overnight. This presentation now more consistent with pneumonia, with a
   possible superimposed CHF component. Pt given
   vanc/cefepime/levofloxacin yesterday evening.
   - vanc/cefepime/azithromycin for broad coverage for pneumonia at this
   point
   - attempt to get sputum cultures
   - restarting Lasix 60 mg PO daily to prevent CHF exacerbation on top of
   PNA
   - continue metoprolol 12.5 mg daily, per home med list
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Pt
   denies any current chest pain, and the first 2 sets of CE's was
   negative. Of note, the patient did report some chest pressure
   previously, but this has since resolved.
   - will continue to rule out MI with 3 sets of CE's
   - continue to monitor for any chest pain
   .
   # RHYTHM: Pt with a history of a.fib, for which he is on coumadin. His
   INR is currently therapeutic at 2.3 on presentation. Telemetry
   currently showing v-paced rhythm.
   - continue coumadin, with goal INR of [**1-25**]
   - need to closely monitor INR, as it may change with pt on abx
   .
   # Hypertension: Normotensive at this time.
   - continue metoprolol tartrate
   - lasix as above
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Pt currently near his baseline.
   - continue iron supplementation
   - continue to trend hct
   - bowel regimen with colace/senna
   .
   # ID: Per o/p ID notes, the patient is on chornic cefpodoxime for
   ongoing suppression after high-grade viridans streptococcal bacteremia
   in the setting of pacer/defibrillator wires and to continue intended
   life-long suppression for suspected Klebsiella pneumoniae lead
   endocarditis during a prior bacteremia.
   - holding cefpodoxime while on broad spectrum abx as above
   - touch base with outpt ID doc
   .
   # S/p Whipple:
   - continue pancreatic enzyme repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-3**] 12:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   NOTE: On review of ECG, seems that PM LV lead is not pacing as before.
   Pt will need to have PM interrogated while he is in the CCU.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 13813**], MD
   on:[**2141-3-4**] 10:41 ------

2141-03-05 06:01:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -started meropenem and discontinued ceftriaxone
   -consulted EP, will check ICD tomorrow
   -6 p.m., noted to be more hypoxemic, blood gas 7.50/37/50
   -gave Lasix and placed on non-rebreather without improvement
   -7 p.m. intubated for hypoxemic respiratory failure
   -8 p.m. A-line placed
   -febrile, pan-cultured
   -9 p.m. bolused 500 cc NS for SBP 70s
   -10 p.m. started levophed for SBP 70s
   -11 p.m. bolused additional 500 cc NS for SBP 70s
   -2 a.m. ET tube advanced 2 cm.
   -4 a.m. bolused with 500 cc NS for low urine output
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Cefipime - [**2141-3-3**] 08:15 PM
   Azithromycin - [**2141-3-4**] 09:30 AM
   Ceftriaxone - [**2141-3-4**] 03:00 PM
   Vancomycin - [**2141-3-4**] 11:16 PM
   Meropenem - [**2141-3-5**] 12:44 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-5**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 60 (60 - 103) bpm
   BP: 76/47(53) {76/47(53) - 124/83(96)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,049 mL
                                                                    712 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,489 mL
                                                                    712 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    145 mL
   Urine:
                                                                  1,610 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    439 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 51.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/44/117/27/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 167
   Physical Examination
   GENERAL: Alert; Oriented x3. Uncomfortable; fidgety. Diaphoretic.
   High-flow O2 mask on.
   HEENT: NC/AT.
   NECK: Supple. Unable to appreciate JVP.
   CARDIAC: Difficult to hear over breath sounds; No m/r/g appreciated.
   LUNGS: Resp slightly labored; bilateral crackles and coarse breath
   sounds.
   ABDOMEN: Obese, Soft, NTND. No HSM or tenderness noted. Ventral hernia
   present.
   EXTREMITIES: No significant LE edema noted. No calf pain.
   Labs / Radiology
   172 K/uL
   10.6 g/dL
   134 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   31.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2141-3-3**]  05:38 PM
                             [**2141-3-3**]  08:15 PM
                             [**2141-3-4**]  04:30 AM
                             [**2141-3-4**]  10:00 AM
                             [**2141-3-4**]  03:08 PM
                             [**2141-3-4**]  06:29 PM
                             [**2141-3-4**]  09:17 PM
                             [**2141-3-4**]  11:16 PM
                             [**2141-3-5**]  04:44 AM
                             [**2141-3-5**]  04:55 AM
   WBC
   7.4
   7.5
   Hct
   33.9
   31.5
   Plt
   174
   172
   Cr
   1.2
   1.1
   0.9
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   30
   30
   27
   26
   30
   Glucose
   134
   131
   140
   134
   Other labs: PT / PTT / INR:24.2/34.4/2.3, CK / CKMB /
   Troponin-T:374/4/<0.01, Lactic Acid:0.9 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but now more
   consistent with pneumonia.
   .
   # Hypoxemic respiratory failure/Pneumonia: Patient with fever, cough,
   dyspnea, left-sided infiltrate on CXR. [**Month (only) 51**] have superimposed component
   of heart failure as well. On vancomycin, meropenem, azithromycin for
   broad coverage.  Was intubated on [**3-4**] for hypoxemia.
   - continue mechanical ventilation with CMV 500/22/0.7/5.  Wean FiO2 as
   tolerated.
   - continue vancomycin, meropenem, azithromycin
   - f/u pending cultures
   .
   # Hypotension/sepsis: Likely [**1-24**] pneumonia.
   - holding metoprolol
   - holding diuresis
   - IV fluids PRN
   - norepinephrine
   - place central venous line given pressor requirement
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Heart failure
   may be contributing to patient
s dyspnea, on top of pneumonia. Has
   required fluids overnight  for low urine output.  On norepinephrine.
   - continue norepinephrine
   - holding metoprolol in setting of hypotension
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI rules out with 3 sets of cardiac enzymes.
   - continue aspirin 81 mg daily
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently therapeutic at 2.3 on presentation.
   Telemetry currently showing v-paced rhythm.
   - holding metoprolol in setting of hypotension
   - continue coumadin, with goal INR of [**1-25**]
   - need to closely monitor INR, as it may change with pt on abx
   .
   # s/p ICD: Based on EKG, left ventricular lead may not be functioning
   properly.
   - EP consulted
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Pt currently near his baseline.
   - continue iron supplementation
   - continue to trend hct
   - bowel regimen with colace/senna
   .
   # Chronic antibiotic use: Per o/p ID notes, the patient is on chornic
   cefpodoxime for ongoing suppression after high-grade viridans
   streptococcal bacteremia in the setting of pacer/defibrillator wires
   and to continue intended life-long suppression for suspected Klebsiella
   pneumoniae lead endocarditis during a prior bacteremia.
   - holding cefpodoxime while on broad spectrum abx as above
   - touch base with outpt ID doc
   .
   # S/p Whipple:
   - continue pancreatic enzyme repletion
   ICU Care
   Nutrition: consult nutrition for tube feeds
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2141-3-5**] 12:58 AM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: pantoprazole
   VAP: chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-06 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2141-3-5**] 10:00 AM
   central line placed, CVP 9-15, EP interogated, found that LV pacer not
   working, ICD not working, A sensing ok, RV sensing OK since beginning
   of [**Month (only) 355**]. Magnet to bedside in case of inappropriate shock. If VF/VT
   manage medically.
   fi02 weaned from 70 to 50, borderlien ABGs, back to 60, RISBI deferred.
   OGT with high bile output 350cc, ? [**1-24**] whipple. Ok to hold tube feeds
   for 1-2 days. nutrition consult, gave tube feed recs (Isosource 1.5 at
   15m;/hr, goal 55cc/hr with 14g beneprotein. OGT output 350 cc bile.?
   coz of whipple? Holding pancreatic enzyme. -consider pressidex if
   agitated for extubation.
   -changed [**Last Name (un) 614**] to cefepime per I.D
   Sputum GS: >25 PMNs, no organisms
   UCx neg
   -decreased coumadin to 1mg given on levo
   Levo weaned down from 0.08 to 0.04mcg/kg/min maintain MAPs in 60s.
   .
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Azithromycin - [**2141-3-4**] 09:30 AM
   Ceftriaxone - [**2141-3-4**] 03:00 PM
   Meropenem - [**2141-3-5**] 12:44 AM
   Vancomycin - [**2141-3-5**] 08:30 PM
   Cefipime - [**2141-3-6**] 12:31 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-6**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 63 (53 - 67) bpm
   BP: 76/47(53) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (20 - 23) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 6 (5 - 15)mmHg
   Total In:
                                                                  1,968 mL
                                                                    129 mL
   PO:
   TF:
   IVF:
                                                                  1,968 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    110 mL
   Urine:
                                                                    965 mL
                                                                    110 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 488 (488 - 488) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 44.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/44/137/28/4
   Ve: 10.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   GENERAL: intubated, sedated, unresponsive.
   NECK: Unable to appreciate JVP.
   CARDIAC: Quiet heart sounds. Difficult to hear over breath sounds; No
   m/r/g appreciated.
   LUNGS: Coarse ventilated breath sounds bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness noted.
   EXTREMITIES: No significant LE edema noted. Extremities warm and
   well-perfused.
   Labs / Radiology
   197 K/uL
   10.0 g/dL
   109 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   20 mg/dL
   108 mEq/L
   141 mEq/L
   30.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2141-3-4**]  09:17 PM
                             [**2141-3-4**]  11:16 PM
                             [**2141-3-5**]  04:44 AM
                             [**2141-3-5**]  04:55 AM
                             [**2141-3-5**]  09:20 AM
                             [**2141-3-5**]  01:51 PM
                             [**2141-3-5**]  06:28 PM
                             [**2141-3-6**]  04:26 AM
                             [**2141-3-6**]  04:40 AM
                             [**2141-3-6**]  07:02 AM
   WBC
   7.5
   6.6
   Hct
   31.5
   30.6
   Plt
   172
   197
   Cr
   0.9
   0.8
   TCO2
   27
   26
   30
   26
   26
   29
   28
   30
   Glucose
   140
   134
   109
   Other labs: PT / PTT / INR:25.9/32.9/2.5, CK / CKMB /
   Troponin-T:374/4/<0.01, Differential-Neuts:81.8 %, Lymph:8.5 %,
   Mono:5.6 %, Eos:3.9 %, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate,fever, white count consistent with PNA.
   .
   # Hypoxemic respiratory failure/Pneumonia: Patient with fever, cough,
   dyspnea, left-sided infiltrate on CXR. [**Month (only) 51**] have superimposed component
   of heart failure as well. On vancomycin, cefepime, azithromycin for
   broad coverage.  Was intubated on [**3-4**] for hypoxemia.
   - continue mechanical ventilation with CMV 500/22/0.7/8.  Wean FiO2,
   peep  as tolerated.
   - continue vancomycin, cefepime, azithromycin. Gram stain no growth
   prelim
   - f/u pending cultures
   .
   # Hypotension/sepsis: BPs high 90s to low 100s. Likely [**1-24**] pneumonia.
   On levophed for pressor support. CVP 6-9 suggesting not volume up.
   Wean levo as tolerated.
   - holding metoprolol
   - holding diuresis
   - IV fluids PRN
   - norepinephrine
   ..
   # Chronic systolic heart failure: Patient with EF 20-25%. CVP suggests
   CHF contributing less than other factors. UOP 40cc/hr with pt net +ve
   628, -ve 1.3L. On norepinephrine.
   - continue norepinephrine, wean as tolerated/
   - holding metoprolol in setting of hypotension
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin 81 mg daily
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently therapeutic at 2.3 on presentation.
   Telemetry currently showing v-paced rhythm.
   - holding metoprolol in setting of hypotension
   - continue Coumadin at 1mg/day , with goal INR of [**1-25**]
   - need to closely monitor INR, as it may change with pt on abx
   .
   # s/p ICD: high impedance, unclear why.
   -pacer revison in future.
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Pt currently near his baseline.
   - continue iron supplementation
   - continue to trend hct
   - bowel regimen with colace/senna
   .
   # Chronic antibiotic use: Per o/p ID notes, the patient is on chornic
   cefpodoxime for ongoing suppression after high-grade viridans
   streptococcal bacteremia in the setting of pacer/defibrillator wires
   and to continue intended life-long suppression for suspected Klebsiella
   pneumoniae lead endocarditis during a prior bacteremia. On cefepime per
   ID.
   - holding cefpodoxime while on broad spectrum abx as above
   - touch base with outpt ID doc
   .
   # S/p Whipple: NGT output bilous. Did not initiate tube feeds.
   - holding  pancreatic enzyme repletion
   ICU Care
   Nutrition: consult nutrition for tube feeds
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2141-3-5**] 12:58 AM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: lansoprazole
   VAP: chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**],MD
   on:[**2141-3-6**] 09:39 ------

2141-03-07 07:15:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - weaned FiO2 to 40%
   - started tube feeds
   - weaned sedation from 50&4 to 25&2
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Azithromycin - [**2141-3-4**] 09:30 AM
   Ceftriaxone - [**2141-3-4**] 03:00 PM
   Meropenem - [**2141-3-5**] 12:44 AM
   Vancomycin - [**2141-3-6**] 08:48 PM
   Cefipime - [**2141-3-7**] 12:48 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-6**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 65 (59 - 78) bpm
   BP: 76/47(53) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (20 - 22) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  1,778 mL
                                                                    440 mL
   PO:
   TF:
                                                                    145 mL
                                                                    179 mL
   IVF:
                                                                  1,453 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    240 mL
   Urine:
                                                                    590 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 58.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/41/84.[**Numeric Identifier 1000**]/26/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 210
   Physical Examination
   GENERAL: intubated, sedated, unresponsive.
   NECK: Unable to appreciate JVP.
   CARDIAC: Quiet heart sounds. Difficult to hear over breath sounds; No
   m/r/g appreciated.
   LUNGS: Coarse ventilated breath sounds bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness noted.
   EXTREMITIES: No significant LE edema noted. Extremities warm and
   well-perfused
   Labs / Radiology
   205 K/uL
   9.6 g/dL
   132 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   20 mg/dL
   107 mEq/L
   139 mEq/L
   28.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2141-3-5**]  04:55 AM
                             [**2141-3-5**]  09:20 AM
                             [**2141-3-5**]  01:51 PM
                             [**2141-3-5**]  06:28 PM
                             [**2141-3-6**]  04:26 AM
                             [**2141-3-6**]  04:40 AM
                             [**2141-3-6**]  07:02 AM
                             [**2141-3-6**]  09:35 PM
                             [**2141-3-7**]  04:35 AM
                             [**2141-3-7**]  04:52 AM
   WBC
   6.6
   6.4
   Hct
   30.6
   28.5
   Plt
   197
   205
   Cr
   0.8
   0.7
   TCO2
   30
   26
   26
   29
   28
   30
   30
   31
   Glucose
   109
   132
   Other labs: PT / PTT / INR:31.1/42.8/3.1, CK / CKMB /
   Troponin-T:374/4/<0.01, Differential-Neuts:81.8 %, Lymph:8.5 %,
   Mono:5.6 %, Eos:3.9 %, Lactic Acid:0.9 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate,fever, white count consistent with PNA.
   .
   # Hypoxemic respiratory failure/Pneumonia: Patient with fever, cough,
   dyspnea, left-sided infiltrate on CXR. [**Month (only) 51**] have superimposed component
   of heart failure as well. On vancomycin, cefepime, azithromycin for
   broad coverage.  Was intubated on [**3-4**] for hypoxemia.
   - continue mechanical ventilation with CMV 500/22/0.7/8.  Wean FiO2,
   peep  as tolerated.
   - continue vancomycin, cefepime, azithromycin. Gram stain no growth
   prelim
   - f/u pending cultures
   .
   # Hypotension/sepsis: BPs high 90s to low 100s. Likely [**1-24**] pneumonia.
   On levophed for pressor support. CVP 6-9 suggesting not volume up.
   Wean levo as tolerated.
   - holding metoprolol
   - holding diuresis
   - IV fluids PRN
   - norepinephrine
   ..
   # Chronic systolic heart failure: Patient with EF 20-25%. CVP suggests
   CHF contributing less than other factors. UOP 40cc/hr with pt net +ve
   628, -ve 1.3L. On norepinephrine.
   - continue norepinephrine, wean as tolerated/
   - holding metoprolol in setting of hypotension
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin 81 mg daily
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently therapeutic at 2.3 on presentation.
   Telemetry currently showing v-paced rhythm.
   - holding metoprolol in setting of hypotension
   - continue Coumadin at 1mg/day , with goal INR of [**1-25**]
   - need to closely monitor INR, as it may change with pt on abx
   .
   # s/p ICD: high impedance, unclear why.
   -pacer revison in future.
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Pt currently near his baseline.
   - continue iron supplementation
   - continue to trend hct
   - bowel regimen with colace/senna
   .
   # Chronic antibiotic use: Per o/p ID notes, the patient is on chornic
   cefpodoxime for ongoing suppression after high-grade viridans
   streptococcal bacteremia in the setting of pacer/defibrillator wires
   and to continue intended life-long suppression for suspected Klebsiella
   pneumoniae lead endocarditis during a prior bacteremia. On cefepime per
   ID.
   - holding cefpodoxime while on broad spectrum abx as above
   - touch base with outpt ID doc
   .
   # S/p Whipple: NGT output bilous. Did not initiate tube feeds.
   - holding  pancreatic enzyme repletio
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-6**] 03:37 PM 25 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   20 Gauge - [**2141-3-5**] 12:58 AM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-08 06:47:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - increased vancomycin to 1250 mg IV Q12H
   - held Coumadin for supratherapeutic INR
   - Chest CT was initially read as pneumonia, then reread as follow:
   1. No intrathoracic abscess. Bilateral non-hemorrhagic
   small-to-moderate pleural effusions, minimally loculated, if at all, on
   the right.
   2. Severe lower lobe and moderate upper lobe atelectasis. Minimal
   pneumonia cannot be excluded.
   3. Mediastinal lymphadenopathy, likely reactive.
   - bolused 500 cc for low urine output, without improvement in urine
   output
   - ordered Lasix 60 mg IV x 1. Put out almost 2 L of urine overnight
   - did recruitment maneuvers and increased PEEP
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Cefipime - [**2141-3-7**] 12:00 PM
   Vancomycin - [**2141-3-7**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-7**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-8**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 78 (50 - 83) bpm
   BP: 106/58(70) {92/47(60) - 127/71(84)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 12 (5 - 15)mmHg
   Total In:
                                                                  2,565 mL
                                                                    326 mL
   PO:
   TF:
                                                                    884 mL
                                                                    309 mL
   IVF:
                                                                  1,201 mL
                                                                     17 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    850 mL
   Urine:
                                                                  1,580 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    985 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 313 (313 - 313) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/40/107/27/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 214
   Physical Examination
   GENERAL: Intubated, sedated, does not respond to commands.
   CARDIAC: RRR. No M/G/R.
   LUNGS: Coarse ventilated breath sounds bilaterally.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: WWP. Trace bilateral LE edema.
   Labs / Radiology
   258 K/uL
   10.6 g/dL
   191 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   24 mg/dL
   105 mEq/L
   139 mEq/L
   31.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2141-3-6**]  04:26 AM
                             [**2141-3-6**]  04:40 AM
                             [**2141-3-6**]  07:02 AM
                             [**2141-3-6**]  09:35 PM
                             [**2141-3-7**]  04:35 AM
                             [**2141-3-7**]  04:52 AM
                             [**2141-3-7**]  05:51 PM
                             [**2141-3-7**]  11:27 PM
                             [**2141-3-8**]  03:41 AM
                             [**2141-3-8**]  04:21 AM
   WBC
   6.6
   6.4
   7.2
   Hct
   30.6
   28.5
   31.5
   Plt
   197
   205
   258
   Cr
   0.8
   0.7
   0.9
   TCO2
   28
   30
   30
   31
   22
   29
   28
   Glucose
   109
   132
   191
   Other labs: PT / PTT / INR:22.8/32.4/2.2, CK / CKMB /
   Troponin-T:374/4/<0.01, Differential-Neuts:83.3 %, Lymph:6.5 %,
   Mono:6.5 %, Eos:3.5 %, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate,fever, white count consistent with PNA.
   .
   # Hypoxemic respiratory failure/Pneumonia: Patient with fever, cough,
   dyspnea, left-sided infiltrate on CXR. On vancomycin, cefepime,
   azithromycin for broad coverage.  Was intubated on [**3-4**] for hypoxemia.
   - continue mechanical ventilation.  Consider trial on pressure support
   if  patient becomes more alert.
   - continue vancomycin, cefepime, azithromycin.
   - f/u pending cultures (no positive micro data to date)
   - chest CT to better evaluate lung fields
   .
   # Hypotension/sepsis: Off pressors since 2 a.m. with SBP around 110.
   - holding metoprolol
   - holding diuresis
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - holding diuresis
   - holding metoprolol in setting of hypotension
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin 81 mg daily
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently therapeutic at 2.3 on presentation.
   Telemetry currently showing v-paced rhythm.
   - holding metoprolol in setting of hypotension; consider restarting if
   BP stable off pressors
   - holding Coumadin in setting of supratherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction
   -pacer revison in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   - bowel regimen with colace/senna
   .
   # Chronic antibiotic use: Per o/p ID notes, the patient is on chornic
   cefpodoxime for ongoing suppression after high-grade viridans
   streptococcal bacteremia in the setting of pacer/defibrillator wires
   and to continue intended life-long suppression for suspected Klebsiella
   pneumoniae lead endocarditis during a prior bacteremia. On cefepime per
   ID.
   - holding cefpodoxime while on broad spectrum abx as above
   .
   # S/p Whipple: On tube feeds. Holding  pancreatic enzyme repletion
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-8**] 03:35 AM 45 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   20 Gauge - [**2141-3-5**] 12:58 AM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer: lansoprazole
   VAP: chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-09 07:03:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - spiked to 101, pancultured.
   - Per pulm, pt has ARDS, (did not respond to peep) and has bilat
   infiltrate, wedge up, AA grad) but improving with right lung now clear.
   If not improving over a few days transfer to MICU.
   - insulin sliding scale started given GFS 190
   - stopped sedation
   - vancomycin dose increased
   - restarted coumadin, metoprolol
   - updated wife
   - From respiratory standpoint, patient did not do well on pressure
   support mode; was switched back to assist control in afternoon and
   overnight
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-8**] 08:00 PM
   Cefipime - [**2141-3-9**] 12:00 AM
   Metronidazole - [**2141-3-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-8**] 08:00 PM
   Furosemide (Lasix) - [**2141-3-8**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 50 (50 - 82) bpm
   BP: 141/62(80) {110/54(69) - 147/66(84)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 102.5 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 13 (8 - 14)mmHg
   Total In:
                                                                  2,203 mL
                                                                    952 mL
   PO:
   TF:
                                                                  1,273 mL
                                                                    382 mL
   IVF:
                                                                    620 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,155 mL
   Urine:
                                                                  3,160 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                   -203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 604 (604 - 604) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 122 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/37/151/29/3
   Ve: 13.9 L/min
   PaO2 / FiO2: 377
   Physical Examination
   GENERAL: Intubated, sedated, moving legs, does not respond to commands.
   CARDIAC: RRR. No M/G/R.
   LUNGS: Ventilated breath sounds bilaterally. No rales, wheezes, or
   rhonchi.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: WWP. Trace bilateral LE edema.
   Neuro: Normal lower extremity tone. Knee and ankle jerks absent
   bilaterally.
   Labs / Radiology
   312 K/uL
   11.1 g/dL
   170 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   33 mg/dL
   104 mEq/L
   142 mEq/L
   32.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2141-3-8**]  03:41 AM
                             [**2141-3-8**]  04:21 AM
                             [**2141-3-8**]  06:41 AM
                             [**2141-3-8**]  09:37 AM
                             [**2141-3-8**]  04:32 PM
                             [**2141-3-8**]  05:10 PM
                             [**2141-3-9**]  12:23 AM
                             [**2141-3-9**]  04:48 AM
                             [**2141-3-9**]  05:03 AM
                             [**2141-3-9**]  06:50 AM
   WBC
   7.2
   10.0
   Hct
   31.5
   32.6
   Plt
   258
   312
   Cr
   0.9
   1.0
   1.0
   1.0
   TCO2
   28
   30
   23
   23
   27
   27
   Glucose
   191
   180
   191
   170
   Other labs: PT / PTT / INR:22.8/32.4/2.2, CK / CKMB /
   Troponin-T:374/4/<0.01, Differential-Neuts:83.3 %, Lymph:6.5 %,
   Mono:6.5 %, Eos:3.5 %, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate,fever, white count consistent with PNA.
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Chest CT more consistent with atelectasis/effusion rather than
   pneumonia.  Oxygenation improving.  Right side clearing
   radiographically.  Suspect multifactorial etiology of CHF + pneumonia.
   - continue mechanical ventilation, with minimized sedation and daily
   spontaneous breathing trials
   - continue vancomycin, cefepime, Flagyl. Course of azithromycin is
   complete.
   - f/u pending cultures (no positive micro data to date)
   - appreciate pulmonary consult recs
   - diuresis as below
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   hypervolemic.
   - continue diuresis with goal negative 1-2 L today
   - uptitrate metoprolol to [**Hospital1 7**] dosing
   .
   # Fever: Likely source is pneumonia, although differential includes
   worsening of known ICD infection. Unclear why patient is continuing to
   spike fevers in spite of broad spectrum antibiotics.  One concern would
   be for empyema, although lack of pleural enhancement of chest CT argues
   against this.
   - trend fever curves
   - Tylenol
   - antibiotics as above
   - consider ID consult
   .
   # Hyperglycemia: No known history of diabetes. Infection is likely
   cause, although it is also possible that patient
s hyperglycemic is
   related to infusion of meds in D5W.
   - insulin sliding scale
   - add basal insulin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently subtherapeutic. Telemetry currently
   showing v-paced rhythm.
   - uptitrate metoprolol to [**Hospital1 7**]
   - continue Coumadin; trend INR
   .
   # s/p ICD: high impedance. LV lead dysfunction
   -pacer revison in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # Chronic antibiotic use: Per o/p ID notes, the patient is on chornic
   cefpodoxime for ongoing suppression after high-grade viridans
   streptococcal bacteremia in the setting of pacer/defibrillator wires
   and to continue intended life-long suppression for suspected Klebsiella
   pneumoniae lead endocarditis during a prior bacteremia. On cefepime per
   ID.
   - holding cefpodoxime while on broad spectrum abx as above
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-9**] 01:47 AM 55 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   Prophylaxis:
   DVT: warfarin
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-10 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2141-3-9**] 12:00 PM
 FEVER - 103.8
F - [**2141-3-9**] 12:00 PM
   Overnight Events:
   - spiked temp to 103; pan cultured, put on cooling blanket
   - consulted ID: recommended switch to meropenem, viral screen
   - pulm recs: rpt cxr in AM, daily SBT, consider bronch tomorrow
   - got lasix 60 mg IV x 2 (one in AM and one in PM)
   - d/c'ed pancreatic enzymes while pt is on TF's
   - increased metoprolol tartrate to [**Hospital1 7**]
   - started glargine
   - started heparin SC while pt is suptherapeutic on INR
   - noted to have increased CK; d/c'ed simvastatin; did not show signs of
   serotonin syndrome on physical exam
   - pulled out NGT partly; RN was able to push back in; good placement on
   repeat CXR
   - I/O: -800mL at midnight
   - gave 500 cc over 120 mins for elevated CK
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-9**] 09:22 AM
   Cefipime - [**2141-3-9**] 12:00 PM
   Metronidazole - [**2141-3-9**] 04:00 PM
   Meropenem - [**2141-3-10**] 12:10 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-9**] 05:30 PM
   Furosemide (Lasix) - [**2141-3-9**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-10**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 39.9
C (103.8
   Tcurrent: 37.8
C (100
   HR: 50 (50 - 51) bpm
   BP: 115/60(73) {110/51(66) - 146/66(84)} mmHg
   RR: 12 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 102.5 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 17 (13 - 18)mmHg
   Total In:
                                                                  3,244 mL
                                                                  1,254 mL
   PO:
   TF:
                                                                  1,220 mL
                                                                    333 mL
   IVF:
                                                                  1,254 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                    453 mL
   Urine:
                                                                  4,125 mL
                                                                    453 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -881 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,200 (471 - 1,300) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 77
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/53/141/30/8
   Ve: 13 L/min
   PaO2 / FiO2: 353
   Physical Examination
   GENERAL: Intubated, sedated, moving legs, does not respond to commands.
   CARDIAC: RRR. No M/G/R.
   LUNGS: Coarse breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting LE edema noted.
   Neuro: Normal lower extremity tone. No hyperreflexia noted. PERRL.
   Labs / Radiology
   345 K/uL
   10.2 g/dL
   167 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.0 mEq/L
   38 mg/dL
   106 mEq/L
   143 mEq/L
   30.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2141-3-8**]  05:10 PM
                             [**2141-3-9**]  12:23 AM
                             [**2141-3-9**]  04:48 AM
                             [**2141-3-9**]  05:03 AM
                             [**2141-3-9**]  06:50 AM
                             [**2141-3-9**]  09:14 AM
                             [**2141-3-9**]  01:02 PM
                             [**2141-3-9**]  03:51 PM
                             [**2141-3-10**]  04:50 AM
                             [**2141-3-10**]  04:55 AM
   WBC
   10.0
   11.4
   Hct
   32.6
   30.8
   Plt
   312
   345
   Cr
   1.0
   1.0
   1.0
   0.9
   TCO2
   23
   27
   27
   29
   30
   36
   Glucose
   191
   170
   157
   167
   Other labs: PT / PTT / INR:18.4/30.6/1.7, CK / CKMB /
   Troponin-T:[**2145-1-23**]/<0.01, Differential-Neuts:86.5 %, Lymph:7.5 %,
   Mono:4.7 %, Eos:1.1 %, Lactic Acid:1.6 mmol/L, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Elevated CK: Pt noted to have an elevated in CK on labwork yesterday.
   Not likely cardiac in nature, as MB is normal. Serotonin syndrome is a
   possibility in this patient on fentanyl and with high fevers. However,
   physical exam not consistent with serotonin syndrome. Also, the patient
   has been on fentanyl for some time, and you would expect this to have
   shown up sooner. Likely this is mild rhabdomyolysis in the setting of
   prolonged hospitalization and sedation. Pt was given 500 cc overnight
   to help prevent renal damage from the elevated CK. CK trending down
   this morning.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Chest CT more consistent with atelectasis/effusion rather than
   pneumonia.  Oxygenation improving.  Right side clearing
   radiographically as of yesterday.  Suspect multifactorial etiology of
   CHF + pneumonia. Of note, pt spiked high temperatures yesterday despite
   being on vanc/cefepime/flagyl. Started on a cooling blanket and
   switched to meropenem
   - continue mechanical ventilation, with daily spontaneous breathing
   trials
   - continue meropenem monotherapy
   - f/u pending cultures (no positive micro data to date)
   - consider bronch today
   .
   # Fever: Likely source is pneumonia, although differential includes
   worsening of known ICD infection. Unclear why patient is continuing to
   spike fevers in spite of broad spectrum antibiotics. After spike to
   103.8 yesterday, ID was consulted. One concern would be for empyema,
   although lack of pleural enhancement of chest CT argues against this.
   - continue meropenem monotherapy, per ID recs
   - f/u respiratory viral screen
   - f/u repeat CXR this AM
   - consider bronch
   - continue cooling blanket PRN
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   hypervolemic. Was being diuresed with goal negative 1-2 L. However,
   ended up getting some fluid overnight [**1-24**] elevated CK.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   .
   # Hyperglycemia: No known history of diabetes. Infection is likely
   cause, although it is also possible that patient
s hyperglycemic is
   related to infusion of meds in D5W.
   - insulin sliding scale
   - continue basal insulin that was added yesterday
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently subtherapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - continue Coumadin; trend INR
   - heparin SQ for DVT ppx while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction
   -pacer revison in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-10**] 01:14 AM 55 mL/hour
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**First Name (STitle) 13813**] delineated in his note on
   [**2141-3-10**].
   History and Physical.   I agree with the history and physical
   examination.  I concur with the treatment plan outlined above.   Still
   have variable orientation
   Medical Decision Making.  Mr. [**Known lastname **] is a 72 year old man with a LVEF
   20-30% who has continued to have acute respiratory failure and is now
   spiking temperatures to > 103.   Bronchoscopy today failed to show an
   obvious source.  The spectrum of antimicrobial coverage has been
   expanded and cultures are pending.  In the interim, we will continue
   ventilatory support and maintaining his volume status.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2141-3-10**] 19:21 ------

2141-03-11 07:02:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - bolused Lasix 60 mg IV once in a.m. and once in p.m.
   - bronchoscopy done: mild mucus plugging, did not look purulent, labs
   sent
   - ID recs: 1. continue meropenem. 2. f/u respiratory virus screen.3.
   trend CK. 4. consider bronch
   - ID attending recs: ? splinter hemorrhage
   - pulm recs: 1. will do BAL LLL. 2. consider CT abd/pelvis if ?
   (illegible). 3. favor antipsychotics for delirium over opioids/benzos.
   4. CHF contributes.
   - decreasing sedation overnight
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-9**] 09:22 AM
   Cefipime - [**2141-3-9**] 12:00 PM
   Metronidazole - [**2141-3-9**] 04:00 PM
   Meropenem - [**2141-3-11**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-10**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-10**] 03:52 PM
   Furosemide (Lasix) - [**2141-3-10**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 39
C (102.2
   Tcurrent: 38.5
C (101.3
   HR: 50 (50 - 54) bpm
   BP: 120/58(73) {104/49(64) - 138/67(84)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 102.2 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 12 (9 - 22)mmHg
   Total In:
                                                                  2,723 mL
                                                                    696 mL
   PO:
   TF:
                                                                  1,068 mL
                                                                    384 mL
   IVF:
                                                                  1,235 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  2,198 mL
                                                                    840 mL
   Urine:
                                                                  2,198 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 641 (294 - 1,200) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/55/172/31/9
   Ve: 5.2 L/min
   PaO2 / FiO2: 430
   Physical Examination
   GENERAL: Intubated, sedated, moving legs, does not respond to commands.
   CARDIAC: RRR. No M/G/R.
   LUNGS: Coarse breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting LE edema noted.
   Neuro: Normal lower extremity tone. No hyperreflexia noted. PERRL.
   Labs / Radiology
   345 K/uL
   10.2 g/dL
   175 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.3 mEq/L
   45 mg/dL
   105 mEq/L
   146 mEq/L
   32.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2141-3-9**]  05:03 AM
                             [**2141-3-9**]  06:50 AM
                             [**2141-3-9**]  09:14 AM
                             [**2141-3-9**]  01:02 PM
                             [**2141-3-9**]  03:51 PM
                             [**2141-3-10**]  04:50 AM
                             [**2141-3-10**]  04:55 AM
                             [**2141-3-10**]  05:46 PM
                             [**2141-3-10**]  05:59 PM
                             [**2141-3-11**]  01:07 AM
   WBC
   11.4
   Hct
   30.8
   32.6
   Plt
   345
   Cr
   1.0
   0.9
   1.0
   1.0
   TropT
   0.02
   TCO2
   27
   27
   29
   30
   36
   37
   Glucose
   157
   167
   175
   Other labs: PT / PTT / INR:18.4/30.6/1.7, CK / CKMB /
   Troponin-T:1312/3/0.02, ALT / AST:237/329, Alk Phos / T Bili:93/0.8,
   Differential-Neuts:86.5 %, Lymph:7.5 %, Mono:4.7 %, Eos:1.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:474 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Elevated CK: Pt noted to have an elevated in CK on labwork yesterday.
   Not likely cardiac in nature, as MB is normal. Serotonin syndrome is a
   possibility in this patient on fentanyl and with high fevers. However,
   physical exam not consistent with serotonin syndrome. Also, the patient
   has been on fentanyl for some time, and you would expect this to have
   shown up sooner. Likely this is mild rhabdomyolysis in the setting of
   prolonged hospitalization and sedation. Pt was given 500 cc overnight
   to help prevent renal damage from the elevated CK. CK trending down
   this morning.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Chest CT more consistent with atelectasis/effusion rather than
   pneumonia.  Oxygenation improving.  Right side clearing
   radiographically as of yesterday.  Suspect multifactorial etiology of
   CHF + pneumonia. Of note, pt spiked high temperatures yesterday despite
   being on vanc/cefepime/flagyl. Started on a cooling blanket and
   switched to meropenem
   - continue mechanical ventilation, with daily spontaneous breathing
   trials
   - continue meropenem monotherapy
   - f/u pending cultures (no positive micro data to date)
   - consider bronch today
   .
   # Fever: Likely source is pneumonia, although differential includes
   worsening of known ICD infection. Unclear why patient is continuing to
   spike fevers in spite of broad spectrum antibiotics. After spike to
   103.8 yesterday, ID was consulted. One concern would be for empyema,
   although lack of pleural enhancement of chest CT argues against this.
   - continue meropenem monotherapy, per ID recs
   - f/u respiratory viral screen
   - f/u repeat CXR this AM
   - consider bronch
   - continue cooling blanket PRN
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   hypervolemic. Was being diuresed with goal negative 1-2 L. However,
   ended up getting some fluid overnight [**1-24**] elevated CK.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   .
   # Hyperglycemia: No known history of diabetes. Infection is likely
   cause, although it is also possible that patient
s hyperglycemic is
   related to infusion of meds in D5W.
   - insulin sliding scale
   - continue basal insulin that was added yesterday
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently subtherapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - continue Coumadin; trend INR
   - heparin SQ for DVT ppx while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction
   -pacer revison in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-11**] 06:11 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin; Coumadin
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-12 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
C - [**2141-3-11**] 08:00 AM
   Overnight Events:
   - Brief trial of 0/5 with RISBI 50-60S, will stay on MMV (5L) on [**4-26**]
   overnight with plan for pressure support trial in am.
   - Added on LFTs, elevated (CK's now trending down)
   - Fentanyl stopped at 4pm after CT scan.
   - Ready to extubate in am.
   - BAL- -ve PCP, [**Name10 (NameIs) **] stuff pending.
   - DFA negative, resp precautions dc'd.
   - Having Fevers through out day. I.D recommended imaging. Head/Torso CT
   negative. Will need TEE on Monday to eval leads ? endocarditis
   (ordered)
   - Defervesced with ibuprofen.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-9**] 09:22 AM
   Cefipime - [**2141-3-9**] 12:00 PM
   Metronidazole - [**2141-3-9**] 04:00 PM
   Meropenem - [**2141-3-12**] 12:03 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-11**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-12**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-12**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 39
C (102.2
   Tcurrent: 37.7
C (99.9
   HR: 52 (50 - 52) bpm
   BP: 126/55(73) {89/50(67) - 136/80(299)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 23 (10 - 24)mmHg
   Total In:
                                                                  2,474 mL
                                                                    392 mL
   PO:
   TF:
                                                                  1,104 mL
                                                                    225 mL
   IVF:
                                                                    610 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    395 mL
   Urine:
                                                                  1,780 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    694 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (456 - 859) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/54/175/34/14
   Ve: 15.2 L/min
   PaO2 / FiO2: 438
   Physical Examination
   GENERAL: Intubated, sedated, not responding to stimuli.
   CARDIAC: RRR. 2/6 systolic murmur at the apex.
   LUNGS: Ventilated breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: Feet cool and mottled. No significant pitting edema noted.
   Labs / Radiology
   372 K/uL
   10.2 g/dL
   171 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   45 mg/dL
   104 mEq/L
   145 mEq/L
   32.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2141-3-9**]  03:51 PM
                             [**2141-3-10**]  04:50 AM
                             [**2141-3-10**]  04:55 AM
                             [**2141-3-10**]  05:46 PM
                             [**2141-3-10**]  05:59 PM
                             [**2141-3-11**]  01:07 AM
                             [**2141-3-11**]  06:14 AM
                             [**2141-3-11**]  06:58 AM
                             [**2141-3-12**]  03:36 AM
                             [**2141-3-12**]  04:12 AM
   WBC
   11.4
   10.1
   9.5
   Hct
   30.8
   32.6
   31.2
   32.0
   Plt
   [**Telephone/Fax (3) 14079**]
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   0.9
   TropT
   0.02
   TCO2
   36
   37
   35
   40
   Glucose
   157
   167
   175
   170
   171
   Other labs: PT / PTT / INR:15.7/27.9/1.4, CK / CKMB /
   Troponin-T:434/3/0.02, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:83.5 %, Lymph:8.9 %, Mono:6.1 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Etiology likely pneumonia + heart failure. Respiratory status improving
   clinically and radiographically. Main barrier to extubation is
   sedation.  s/p bronchoscopy/BAL [**2141-3-11**].
   - continue mechanical ventilation, with daily spontaneous breathing
   trials
   - too sedated on exam this morning, will defer extubation
   - continue meropenem monotherapy
   - f/u pending cultures (no positive micro data to date)
   .
   # Fever: Source unclear. Initially attributed to pneumonia, but patient
   has continued to spike high fevers in spite of Tylenol, antibiotics,
   and improvement in respiratory status. ID following. CT abd/pelvis and
   CT sinuses were negative by prelim read.
   - continue meropenem monotherapy
   - f/u ID recs
   - f/u pending microbiological studies
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic to hypovolemic.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # Hyperglycemia: No known history of diabetes. Contributing factors
   include stress response to infection, h/o pancreatic resection,
   infusion of meds in D5W.
   - insulin sliding scale
   - continue basal insulin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently subtherapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - continue Coumadin; trend INR
   - heparin SQ for DVT ppx while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction
   -pacer revison in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   20 Gauge - [**2141-3-11**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Addendum: CODE BLUE called for patient at 1:45pm when pt went into
   pulseless VF arrest. Etiology of arrest not clear. ICD did not shock
   patient. However, pt did have a return of a perfusable rhythm within
   approximately 2 minutes of arrest. CPR and 1 external shock were given.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 13813**], MD
   on:[**2141-3-12**] 20:25 ------

2141-03-13 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2141-3-12**] 02:40 PM
 FEVER - 102.9
F - [**2141-3-12**] 05:00 PM
   Overnight Events:
   - CODE BLUE: went into VF arrest, ICD did not shock him out of it,
   received approx. 2 minutes of CPR and 1 external defibrillation with
   return of a perfusing rhythm
   - was on amio gtt after code, stopped in evening
   - was desat'ing on [**Last Name (LF) 494**], [**First Name3 (LF) **] went up on FiO2 and PEEP
   - also increased sedation because he was fighting the [**First Name3 (LF) 494**]
   - got 80 IV lasix total
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Meropenem - [**2141-3-13**] 01:24 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Amiodarone - [**2141-3-12**] 02:50 PM
   Midazolam (Versed) - [**2141-3-12**] 05:15 PM
   Fentanyl - [**2141-3-12**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.2
C (99
   HR: 58 (50 - 106) bpm
   BP: 114/53(68) {95/29(62) - 144/81(95)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 16 (9 - 24)mmHg
   Total In:
                                                                  1,875 mL
                                                                    283 mL
   PO:
   TF:
                                                                    225 mL
   IVF:
                                                                  1,650 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    160 mL
   Urine:
                                                                  1,195 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    680 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 330 (330 - 864) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.45/52/262/34/10
   Ve: 8.1 L/min
   PaO2 / FiO2: 655
   Physical Examination
   GENERAL: Intubated, sedated, not responding to stimuli.
   CARDIAC: RRR. No m/r/g appreciated.
   LUNGS: Ventilated breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   Labs / Radiology
   386 K/uL
   10.0 g/dL
   130 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.4 mEq/L
   55 mg/dL
   107 mEq/L
   148 mEq/L
   30.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2141-3-12**]  03:36 AM
                             [**2141-3-12**]  04:12 AM
                             [**2141-3-12**]  08:00 AM
                             [**2141-3-12**]  02:53 PM
                             [**2141-3-12**]  04:37 PM
                             [**2141-3-12**]  06:56 PM
                             [**2141-3-12**]  08:48 PM
                             [**2141-3-12**]  09:00 PM
                             [**2141-3-13**]  04:26 AM
                             [**2141-3-13**]  04:32 AM
   WBC
   9.5
   3.7
   12.4
   10.4
   Hct
   32.0
   32.6
   31.9
   30.7
   Plt
   372
   343
   439
   386
   Cr
   0.9
   1.0
   1.3
   1.3
   TropT
   0.03
   0.10
   TCO2
   40
   36
   29
   33
   35
   37
   Glucose
   171
   196
   178
   130
   Other labs: PT / PTT / INR:17.7/32.1/1.6, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:83.5 %, Lymph:8.9 %, Mono:6.1 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.0 mg/dL,
   Mg++:3.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Fever: Source unclear. Initially attributed to pneumonia, but patient
   has continued to spike high fevers in spite of Tylenol, antibiotics,
   and improvement in respiratory status. ID following. CT abd/pelvis and
   CT sinuses were negative by prelim read.
   - continue meropenem monotherapy
   - f/u ID recs
   - f/u pending microbiological studies
   - TEE to look for ? lead endocarditis
   - if above is negative, will need to consider other causes, such as CNS
   infx or drug fever
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Etiology likely pneumonia + heart failure. Respiratory status improving
   clinically and radiographically. Main barrier to extubation has been
   sedation.
   - continue mechanical ventilation, with daily spontaneous breathing
   trials
   - wean sedation
   - continue meropenem monotherapy
   - f/u pending cultures (no positive micro data to date)
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic to hypovolemic.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   - lasix boluses for goal I/O negative 1 L
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently subtherapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - increase Coumadin; trend INR
   - starting heparin gtt bridge while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction. Of note, ICD did not
   shock patient during code blue yesterday.
   -pacer revision in future
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   20 Gauge - [**2141-3-11**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 13813**] dated [**2141-3-13**].
   I would add the following remarks:
   Status post VF not terminated by ICD.  Persistent fevers.  Plan for TEE
   to identify if there is an intracardiac source of infection.  Continue
   secondary prevention CAD and CHF.  Patient care time 40 minutes
   critical care for management of malignant ventricular arrhythmia.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2141-3-13**] 16:42 ------

2141-03-14 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - PM sodium 152, free water deficit of 3.2L. Ordered for 2L D5W at 125
   cc/hr.
   - TBB -500-1000 at 8pm
   - ID recs: continue meropenem, TEE if feasible, C. diff if diarrhea,
   consider cycling lines
   - Was afebrile over the course of the day, so held off on re-siting CVL
   for now.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Meropenem - [**2141-3-13**] 04:00 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 53 (48 - 67) bpm
   BP: 106/52(66) {99/46(60) - 129/60(78)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 9 (3 - 13)mmHg
   Total In:
                                                                  1,514 mL
                                                                    973 mL
   PO:
   TF:
                                                                    350 mL
   IVF:
                                                                  1,044 mL
                                                                    973 mL
   Blood products:
   Total out:
                                                                  2,132 mL
                                                                    467 mL
   Urine:
                                                                  2,130 mL
                                                                    465 mL
   NG:
                                                                      2 mL
                                                                      2 mL
   Stool:
   Drains:
   Balance:
                                                                   -618 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/48/112/35/11
   Ve: 6.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   GENERAL: Intubated, alert, responding to / following commands.
   CARDIAC: RRR. ?1/6 systolic murmur, heard best at the apex.
   LUNGS: Ventilated breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   NEURO: Alert, following commands, able to move all 4 extremities on
   command; PERRL
   Labs / Radiology
   371 K/uL
   9.5 g/dL
   198 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   49 mg/dL
   106 mEq/L
   147 mEq/L
   30.4 %
   9.2 K/uL
        [image002.jpg]
                             [**2141-3-12**]  02:53 PM
                             [**2141-3-12**]  04:37 PM
                             [**2141-3-12**]  06:56 PM
                             [**2141-3-12**]  08:48 PM
                             [**2141-3-12**]  09:00 PM
                             [**2141-3-13**]  04:26 AM
                             [**2141-3-13**]  04:32 AM
                             [**2141-3-13**]  05:30 PM
                             [**2141-3-13**]  05:42 PM
                             [**2141-3-14**]  02:51 AM
   WBC
   3.7
   12.4
   10.4
   9.2
   Hct
   32.6
   31.9
   30.7
   30.4
   Plt
   343
   439
   386
   371
   Cr
   1.0
   1.3
   1.3
   1.2
   0.9
   TropT
   0.03
   0.10
   TCO2
   29
   33
   35
   37
   37
   Glucose
   196
   178
   130
   164
   130
   198
   Other labs: PT / PTT / INR:21.5/137.9/2.0, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:84.9 %, Lymph:9.3 %, Mono:4.5 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:7.8 mg/dL,
   Mg++:3.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Fever: Source unclear. Initially attributed to pneumonia, but patient
   continued to spike high fevers in spite of Tylenol, antibiotics, and
   improvement in respiratory status. CT abd/pelvis and CT sinuses were
   neg. Pt has been afebrile over 24 hours at this point. However, he did
   have a positive blood cx (GPC
s) this am. This could represent true
   infection versus contaminant.
   - continue meropenem; adding vanc in the setting of positive blood cx
   - f/u ID recs
   - f/u pending microbiological studies
   - TEE to look for ? lead endocarditis
   - will need to pull CVL in setting of positive blood cx; d/w team
   whether we should place another CVL versus try to obtain peripheral
   access until patient is able to get a PICC
   - if above is negative and pt continues to spike fevers, will need to
   consider other causes, such as CNS infx or drug fever
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Etiology likely pneumonia + heart failure. Respiratory status improving
   clinically and radiographically. Mental status greatly improved this
   morning; RSBI in the 30
   - attempt extubation after TEE
   - f/u pending cultures
   - f/u bronch data
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   - lasix boluses for goal I/O negative 1 L; will give 60 mg IV lasix now
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently near therapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - increase Coumadin; trend INR
   - starting heparin gtt bridge while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction. Of note, ICD did not
   shock patient during code blue yesterday.
   -pacer revision in future
   -TEE to look for lead endocarditis, as above
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   20 Gauge - [**2141-3-11**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt; Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2141-03-15 06:43:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -extubated 4PM
   -left PICC placed by IR
   -left IJ pulled, tip sent for culture
   -TEE: Severe (4+ MR). No vegetations seen on the right atrial leads
   (four identified) or on mitral, aortic, tricuspid or pulmonic valves.
   Severely depressed left ventricular function with septal, inferoseptal
   and inferior wall hypokinesis. Moderate tricuspid regurgitation. At
   least mild pulmonary hypertension. Complex atheroma in descending
   aorta.
   Echo in 09 - 2+ MR - possibility endocarditis.
   -Ucx negative, blood cx pending.
   -GPC in clusters. f/u cx data - no s/s yet. Possible contaminant.
   -started vanc
   -Got lasix 60 IV x 1 with UOP ***, likely need to repeat 9pm (got lasix
   late )goal negative 1L
   -3pm crit/lytes
   -heparin discontinued
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Meropenem - [**2141-3-14**] 08:00 AM
   Vancomycin - [**2141-3-14**] 11:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-14**] 03:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 52 (50 - 59) bpm
   BP: 105/45(62) {101/42(56) - 127/60(76)} mmHg
   RR: 16 (7 - 18) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  2,770 mL
                                                                     67 mL
   PO:
   TF:
   IVF:
                                                                  2,380 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,972 mL
                                                                    580 mL
   Urine:
                                                                  3,970 mL
                                                                    580 mL
   NG:
                                                                      2 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,202 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 630 (630 - 630) mL
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.50/52/67/34/14
   Ve: 8.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   GENERAL: Intubated, alert, responding to / following commands.
   CARDIAC: RRR. ?1/6 systolic murmur, heard best at the apex.
   LUNGS: Ventilated breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   NEURO: Alert, following commands, able to move all 4 extremities on
   command; PERRL
   Labs / Radiology
   468 K/uL
   10.4 g/dL
   122 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.8 mEq/L
   30 mg/dL
   104 mEq/L
   143 mEq/L
   31.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2141-3-13**]  04:26 AM
                             [**2141-3-13**]  04:32 AM
                             [**2141-3-13**]  05:30 PM
                             [**2141-3-13**]  05:42 PM
                             [**2141-3-14**]  02:51 AM
                             [**2141-3-14**]  11:40 AM
                             [**2141-3-14**]  03:25 PM
                             [**2141-3-14**]  04:56 PM
                             [**2141-3-14**]  05:03 PM
                             [**2141-3-15**]  03:59 AM
   WBC
   10.4
   9.2
   9.3
   Hct
   30.7
   30.4
   31.8
   Plt
   [**Telephone/Fax (3) 14141**]
   Cr
   1.3
   1.2
   0.9
   0.7
   0.7
   TCO2
   37
   37
   37
   39
   42
   Glucose
   130
   164
   130
   198
   151
   137
   122
   Other labs: PT / PTT / INR:19.5/29.4/1.8, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Fever: Source unclear. Initially attributed to pneumonia, but patient
   continued to spike high fevers in spite of Tylenol, antibiotics, and
   improvement in respiratory status. CT abd/pelvis and CT sinuses were
   neg. Pt has been afebrile over 24 hours at this point. However, he did
   have a positive blood cx (GPC
s) this am. This could represent true
   infection versus contaminant.
   - continue meropenem; adding vanc in the setting of positive blood cx
   - f/u ID recs
   - f/u pending microbiological studies
   - TEE to look for ? lead endocarditis
   - will need to pull CVL in setting of positive blood cx; d/w team
   whether we should place another CVL versus try to obtain peripheral
   access until patient is able to get a PICC
   - if above is negative and pt continues to spike fevers, will need to
   consider other causes, such as CNS infx or drug fever
   .
   # Hypoxemic respiratory failure:  Was intubated on [**3-4**] for hypoxemia.
   Etiology likely pneumonia + heart failure. Respiratory status improving
   clinically and radiographically. Mental status greatly improved this
   morning; RSBI in the 30
   - attempt extubation after TEE
   - f/u pending cultures
   - f/u bronch data
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   - lasix boluses for goal I/O negative 1 L; will give 60 mg IV lasix now
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - continue to trend CK
   - no further IV fluids at this point, as CK not at a significant enough
   level to cause renal failure
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, simvastatin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin. His INR is currently near therapeutic. Telemetry currently
   showing v-paced rhythm.
   - metoprolol [**Hospital1 7**]
   - increase Coumadin; trend INR
   - starting heparin gtt bridge while subtherapeutic INR
   .
   # s/p ICD: high impedance. LV lead dysfunction. Of note, ICD did not
   shock patient during code blue yesterday.
   -pacer revision in future
   -TEE to look for lead endocarditis, as above
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation while on tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   Arterial Line - [**2141-3-4**] 09:13 PM
   Multi Lumen - [**2141-3-5**] 10:00 AM
   20 Gauge - [**2141-3-11**] 01:32 PM
   Prophylaxis:
   DVT: subtherapeutic INR
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2141-03-16 06:54:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - EP recs: [**Company 1994**] to come and interrogate whether there is a problem
   with the generator; timing of change of ICD and/or leads depends on
   when PICC is removed and on course of abx; if can't be done during this
   hospitalization, pt will need lifevest at d/c
   - d/c'ed coumadin; restarted heparin IV
   - d/c'ed Aline
   - Blood cx growing coag negative staph; d/c'ed vanc
   - ID says we can stop meropenem; when we stop meropenem, need to
   restart outpt cefpodoxime therapy
   - put in PT consult
   - gave 60 mg IV lasix; put out a lot of urine to that
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-15**] 08:00 PM
   Meropenem - [**2141-3-16**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-15**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-16**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 51 (51 - 62) bpm
   BP: 122/58(73) {98/51(62) - 132/69(82)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 99.6 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                    978 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                    978 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                  3,025 mL
   Urine:
                                                                  1,545 mL
                                                                  3,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -567 mL
                                                                 -2,660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   GENERAL: Sedated, oriented x 1, does not respond to commands..
   CARDIAC: RRR. No M/G/R.
   LUNGS: Ventilated breath sounds bilaterally. No rales appreciated.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   NEURO: Mental status as above. PERRL
   Labs / Radiology
   464 K/uL
   10.6 g/dL
   152 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   145 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-3-13**]  04:32 AM
                             [**2141-3-13**]  05:30 PM
                             [**2141-3-13**]  05:42 PM
                             [**2141-3-14**]  02:51 AM
                             [**2141-3-14**]  11:40 AM
                             [**2141-3-14**]  03:25 PM
                             [**2141-3-14**]  04:56 PM
                             [**2141-3-14**]  05:03 PM
                             [**2141-3-15**]  03:59 AM
                             [**2141-3-16**]  05:45 AM
   WBC
   9.2
   9.3
   8.4
   Hct
   30.4
   31.8
   33.0
   Plt
   371
   468
   464
   Cr
   1.2
   0.9
   0.7
   0.7
   0.8
   TCO2
   37
   37
   37
   39
   42
   Glucose
   164
   130
   198
   151
   137
   122
   152
   Other labs: PT / PTT / INR:30.7/48.8/3.1, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits.
   - continue to follow clinically
   - minimize sedating medications
   .
   # s/p VT/VF arrest/ICD dysfunction: Patient had VT/VF arrest on [**3-12**]
   during which ICD failed to defibrillate him and he required external
   therapy.  High impedance. LV lead dysfunction.
   - f/u EP recs
   - [**Hospital1 1896**] pads in place
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypoxemic respiratory failure: Now s/p extubation and satting well on
   room air. Was intubated on [**4-20**] for hypoxemic respiratory failure.
   Etiology likely pneumonia + heart failure.
   - f/u pending cultures
   - treat pneumonia as above and heart failure as below
   .
   # Fever/Pneumonia: Now afebrile x 72 hours. Previously, patient was
   spiking high fevers in spite of Tylenol, antibiotics, and improvement
   of pneumonia. This led to concern about an occult infection or
   non-infectious cause of fever. CT abd/pelvis and CT sinuses were
   negative. TEE showed no vegetation. There was one positive blood cx
   (coag neg staph). This could represent true infection versus
   contaminant.
   - continue meropenem for now. Will change to cefpodoxime once patient
   can take PO
   - f/u ID recs
   - f/u pending microbiological studies
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses. Had very strong diuresis overnight to
   Lasix 60 mg IV. Can be more gentle with diuresis in future.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   - goal negative 2.5 L today (already negative 2.5 L)
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation if patient is cleared by speech and
   swallow.
   ICU Care
   Nutrition: Still not alert enough for speech and swallow. Will hold off
   on feeding tube for now.
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   22 Gauge - [**2141-3-15**] 08:59 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Last Name (NamePattern1) **], MD
   on:[**2141-3-16**] 18:43 ------

2141-03-17 06:32:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -ID recs: stop vanc and meropenem; restart cefpodoxime; no objection to
   PICC removal or device replacement during this admission from ID
   perspective
   -EP recs: Device interrogated with [**Company 1994**] representative. RV coil
   fractured, leading to high impedence and inability to defibrillate.
   Since SVC coil impedence is calculated using RV coil, this appears
   elevated. LV coil is unipolar, with impedence calculated to RV coil,
   making is also appear elevated. A lead impedence is elevated, but still
   functional and may be due to scar or tissue impedence problem. [**Name (NI) 133**]
   discuss with Dr. [**Last Name (STitle) 5152**] re: extraction vs. new lead. Keep
   defibrillator at bedside. Increase amiodarone to 400 mg [**Hospital1 7**] for VT. If
   VT continues, consider ablation next week.
   -increased amiodarone to 400 mg [**Hospital1 7**]
   -looked into history of lead infection. Per [**Hospital **] clinic notes, TEE on
   [**2139-8-20**] showed mobile echodensities on both pacer leads
   -had runs of VT lasting as long as 30 seconds. Gave amiodarone 150 mg
   IV, followed by 1 mg/min for 6 hours, then 0.5 mg/min for 18 hours
   -changed meropenem to cefpodoxime
   -will need to be NPO after midnight on Sunday for possible EP procedure
   -4:30 a.m. Had 30 seconds of VT with HR 200. Unclear if patient had
   pulse. [**Name8 (MD) 54**] RN, patient was exhibiting agonal breathing, so he was
   defibrillated. Following defibrillation, patient received approximately
   1 minute of CPR.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-15**] 08:00 PM
   Meropenem - [**2141-3-16**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Amiodarone - [**2141-3-16**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-17**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 73 (51 - 220) bpm
   BP: 120/66(78) {88/37(44) - 142/76(87)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 99.6 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                    927 mL
                                                                    246 mL
   PO:
             TF:
   IVF:
                                                                    927 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    135 mL
   Urine:
                                                                  3,280 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,353 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.49/39/163/29/6
   Physical Examination
   GENERAL: Oriented x 0-1. Does not respond to
   commands
   CARDIAC: RRR. II/VI HSM at apex.
   LUNGS: Diffuse rales.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   NEURO: Mental status as above. PERRL
   Labs / Radiology
   426 K/uL
   9.6 g/dL
   201 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   31.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2141-3-14**]  02:51 AM
                             [**2141-3-14**]  11:40 AM
                             [**2141-3-14**]  03:25 PM
                             [**2141-3-14**]  04:56 PM
                             [**2141-3-14**]  05:03 PM
                             [**2141-3-15**]  03:59 AM
                             [**2141-3-16**]  05:45 AM
                             [**2141-3-16**]  01:44 PM
                             [**2141-3-17**]  05:02 AM
                             [**2141-3-17**]  05:15 AM
   WBC
   9.2
   9.3
   8.4
   9.1
   Hct
   30.4
   31.8
   33.0
   31.0
   Plt
   371
   468
   464
   426
   Cr
   0.9
   0.7
   0.7
   0.8
   0.8
   1.2
   TCO2
   37
   39
   42
   31
   Glucose
   198
   151
   137
   122
   152
   131
   201
   Other labs: PT / PTT / INR:37.4/110.5/3.9, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:3.5 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA.
   .
   # s/p VT/VF arrest/ICD dysfunction: Patient had VT/VF arrest on [**3-12**]
   during which ICD failed to defibrillate him and he required external
   therapy.  Patient had multiple runs of VT, including second VT arrest
   last night requiring defibrillation.  Etiology of recently increased
   ectopy is unclear.
   -f/u EP recs
   -[**Hospital1 1896**] pads in place
   -if develops VT, will need external therapy as ICD is not functioning
   -decrease amiodarone to 200 mg daily due to concern about prolonged QT
   -increase metoprolol to 25 mg [**Hospital1 7**]
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure. Prior
   to last night
s VT arrest, patient was satting well on 2L NC. Has had
   increased O2 requirement since, possibly related to aspiration or
   worsening heart failure.
   -aspiration precautions
   -f/u speech and swallow recs
   -diurese for goal negative 1 L today
   .
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits.
   - continue to follow clinically
   - minimize sedating medications
   .
   # Fever/Pneumonia: Now afebrile for several days. Previously, patient
   was spiking high fevers in spite of Tylenol, antibiotics, and
   improvement of pneumonia. This led to concern about an occult infection
   or non-infectious cause of fever. CT abd/pelvis and CT sinuses were
   negative. TEE showed no vegetation. There was one positive blood cx
   (coag neg staph). This could represent true infection versus
   contaminant.
   - continue cefpodoxime
   - f/u ID recs
   - f/u pending microbiological studies
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   - goal negative 1 L today
   .
   # Coagulopathy: INR markedly elevated today. Likely related to
   amiodarone.
   -continue to hold Coumadin
   -vitamin K 2 mg PO once
   .
   # Elevated CK: Likely caused by stain (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation if patient is cleared by speech and
   swallow.
   ICU Care
   Nutrition: : Still not alert enough for speech and swallow. Will hold
   off on feeding tube for now.
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   22 Gauge - [**2141-3-15**] 08:59 AM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2141-03-18 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2141-3-17**] 07:00 PM
   -Spiked temp to 101.8 at around 10 PM; had been afebrile all day. Vital
   signs otherwise stable, although patient somewhat agitated.
   Pancultured. Patient given one-time dose of meropenem -- ?aspiration
   pneumonitis versus pneumonia. CXR ordered for AM rounds.
   -Cr and BUN bumped, have maxed his diuresis.= -ve 600 by 7:30pm.
   -amiodorone decreased, metoprolol increased per EP recs
   -per Dr. [**Last Name (STitle) 5758**],vt initiated by long short  sequences, lower rate
   limit of pacing was too low,VT could have been terminated by
   antitachycardia pacing  pacer set at higher rate of 75 -100 A to avoid
   fast-slow-fast sequences that may have precipitated episode of
   ventricular tachycardia (note in chart). ATP were added in a FVT zone
   of 260-300  and ? DVT zone 300-400./
   -per speech and swallow, keep NPO except meds. Aspiration precautions,
   follow for signs infection, sent blood/sputum cx
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-15**] 08:00 PM
   Meropenem - [**2141-3-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-17**] 09:00 AM
   Furosemide (Lasix) - [**2141-3-17**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-18**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.5
   HR: 85 (77 - 93) bpm
   BP: 130/61(78) {111/56(71) - 140/92(96)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 91%
   Heart rhythm:A sensing,  V Paced
   Wgt (current): 99.6 kg (admission): 105 kg
   Height: 72 Inch
                  Total In:
                                                                    400 mL
                  PO:
                  TF:
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    280 mL
   Urine:
                                                                  1,140 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb, Other
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   GENERAL: Oriented to person, able to follow commands, improved from
   y/d
   CARDIAC: RRR. II/VI HSM at apex.
   LUNGS: Diffuse rales.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No significant pitting edema noted.
   NEURO: Mental status as above. PERRL
   Labs / Radiology
   521 K/uL
   10.4 g/dL
   130 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   46 mg/dL
   110 mEq/L
   149 mEq/L
   31.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2141-3-14**]  04:56 PM
                             [**2141-3-14**]  05:03 PM
                             [**2141-3-15**]  03:59 AM
                             [**2141-3-16**]  05:45 AM
                             [**2141-3-16**]  01:44 PM
                             [**2141-3-17**]  05:02 AM
                             [**2141-3-17**]  05:15 AM
                             [**2141-3-17**]  01:55 PM
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
   WBC
   9.3
   8.4
   9.1
   11.0
   Hct
   31.8
   33.0
   31.0
   31.4
   Plt
   468
   464
   426
   521
   Cr
   0.7
   0.7
   0.8
   0.8
   1.2
   1.3
   1.2
   1.1
   TCO2
   42
   31
   Glucose
   137
   122
   152
   131
   [**Telephone/Fax (2) 14196**]30
   Other labs: PT / PTT / INR:23.5/33.1/2.2, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE.
   .
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation with
   infiltrate, fever, white count consistent with PNA initially on
   meropenem for concern resistant klebsiella who has been cx negative,
   narrowed to suppressive cefpodoxime regimen now spiking temp with
   meropenem restarted. Pt also had VT thought [**1-24**] fast/short sequences
   due to pacer setting.
   .
   # s/p VT/VF arrest/ICD dysfunction: LV lead not pacing, only RV
   ([**3-4**]).  PMR programmed to DDD
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Patient had
   multiple runs of VT, including second VT arrest 2 nites ago requiring
   defibrillation.  Etiology of recently increased ectopy thought [**1-24**]
   fast/short sequences, pacer settings. A sensed V paced.
   .  Device may not be able to detect VT/VF.  Pt will have to be
   Externally defibrillated
   -Unlikely to need ablation as previously thought when etiology VT
   unclear.
   -continue current amnio dose 200mg daily,  metoprololl 25mg [**Hospital1 7**]
   monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   Possible lead extraction next week for RV coil fracture.
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure. Prior
   to VT arrest, patient was satting well on 2L NC . Has had increased O2
   requirement since, requiring face mask and desating when not on it,
   possibly related to aspiration, less likely worsening heart failure.
   Spiked temp last night, most likely asp pneumonitis, mild
   leukocytosis.  Heart failure lesser contributor, diuresed well to 20 IV
   lasix but no frther given, given bump in Cr. Not grossly volume
   overloaded on exam.
   Given prior hx, broadened to meropenem but can consider narrowing if
   remains afebrile, pending Cx data
   -aspiration precautions
   -allow to autodiurese today, if later in day appears positive, consider
   lasix bolus,
   -f/u speech and swallow recs
   -diurese for goal negative 1 L today
   .
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has intermittent periods of lucidity, over
   general course slightl improved.  MS currently limiting ability to take
   p.o . Plan currently to keep NPO except meds, repeat swallow eval early
   next week.
   - continue to follow clinically
   - minimize sedating medications
   .
   Acute renal failure: hypernatremia, Cr increased y/d in setting lasix
   IV. [**Month (only) 51**] need to give free H20 to correct free h20 deficit today. Cr
   increased to 1.3 yesterday. Now 1.1
   Continue to trend Cr
   .
   # Fever/Pneumonia: Now afebrile for several days. Previously, patient
   was spiking high fevers in spite of Tylenol, antibiotics, and
   improvement of pneumonia. This led to concern about an occult infection
   or non-infectious cause of fever. CT abd/pelvis and CT sinuses were
   negative. TEE showed no vegetation. There was one positive blood cx
   (coag neg staph). This could represent true infection versus
   contaminant.
   - f/u culture data with plan to narrow vs provide HAP with aspiration
   coverage.
   - f/u ID recs
   - f/u pending microbiological studies
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   -
   # Coagulopathy: INR markedly elevated y/d. Likely related to
   amiodarone.
   -continue to hold Coumadin until below 2.0 then restart.
   -continue to trend.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation if patient is cleared by speech and
   swallow.
   ICU Care
   Nutrition: : Still not alert enough for speech and swallow. Will hold
   off on feeding tube for now.
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   22 Gauge - [**2141-3-15**] 08:59 AM
   Prophylaxis:
   DVT: start hep SC, until INR below 2 then start amnio.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   TITLE:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9496**].
   I would add the following remarks:
   History
   Spike to 101 today without obvious source.
   Mental status is improved
 oriented to person and place.
   Diuresis of 700 cc with furosemide 20 mg with improvement in the CXR
   and oxygenation.
   Medical Decision Making
   Pacemaker reprogrammed.
   EP procedure Thurs with possible lead extraction and ICD replacement.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2141-3-18**] 11:45 ------

2141-03-19 06:50:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - restarted cefpodoxime
   - gave 1 L D5W for hypernatremia
   - ID: signed off
   - EP: can attempt lead extraction in OR but risky, should readdress
   goals of care
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Meropenem - [**2141-3-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-18**] 08:50 AM
   Furosemide (Lasix) - [**2141-3-18**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-19**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 77 (75 - 82) bpm
   BP: 117/67(80) {61/27(35) - 142/80(91)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 99.6 kg (admission): 105 kg
   Height: 72 Inch
                  Total In:
                                                                    956 mL
                  PO:
                  TF:
   IVF:
                                                                    956 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    340 mL
   Urine:
                                                                  1,820 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -864 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   GEN: NAD.
   CV: RRR. Normal s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Alert, oriented to hospital, [**Hospital3 **], year. Able to state
   why he is the hospital. Stated president was
[**Last Name (un) **]
.  Able to recall
   historical details relevant to his area of expertise as a professor.
   Talking about being award a
medal
 for being a
hero
   Labs / Radiology
   523 K/uL
   10.6 g/dL
   126 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.7 mEq/L
   40 mg/dL
   113 mEq/L
   150 mEq/L
   33.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2141-3-15**]  03:59 AM
                             [**2141-3-16**]  05:45 AM
                             [**2141-3-16**]  01:44 PM
                             [**2141-3-17**]  05:02 AM
                             [**2141-3-17**]  05:15 AM
                             [**2141-3-17**]  01:55 PM
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
                             [**2141-3-18**]  05:01 PM
                             [**2141-3-19**]  05:06 AM
   WBC
   9.3
   8.4
   9.1
   11.0
   10.9
   Hct
   31.8
   33.0
   31.0
   31.4
   33.3
   Plt
   468
   464
   426
   521
   523
   Cr
   0.7
   0.8
   0.8
   1.2
   1.3
   1.2
   1.1
   1.0
   0.9
   TCO2
   31
   Glucose
   122
   152
   131
   [**Telephone/Fax (3) **]
   130
   428
   126
   Other labs: PT / PTT / INR:15.9/28.1/1.4, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers in spite of
   Tylenol and meropenem, runs of VT, ICD malfunction, VT/VF arrest
   requiring debrillation and reintubation, and rapid VT requiring
   defibrillation, narrowed to suppressive cefpodoxime regimen now spiking
   temp with meropenem restarted. Pt also had VT thought [**1-24**] fast/short
   sequences due to pacer setting.
   .
   # s/p VT/VF arrest/ICD dysfunction: LV lead not pacing, only RV
   ([**3-4**]).  PMR programmed to DDD
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Patient had
   multiple runs of VT, including second VT arrest 2 nites ago requiring
   defibrillation.  Etiology of recently increased ectopy thought [**1-24**]
   fast/short sequences, pacer settings. A sensed V paced.
   .  Device may not be able to detect VT/VF.  Pt will have to be
   Externally defibrillated
   -Unlikely to need ablation as previously thought when etiology VT
   unclear.
   -continue current amnio dose 200mg daily,  metoprololl 25mg [**Hospital1 7**]
   monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   Possible lead extraction next week for RV coil fracture.
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure. Prior
   to VT arrest, patient was satting well on 2L NC . Has had increased O2
   requirement since, requiring face mask and desating when not on it,
   possibly related to aspiration, less likely worsening heart failure.
   Spiked temp last night, most likely asp pneumonitis, mild
   leukocytosis.  Heart failure lesser contributor, diuresed well to 20 IV
   lasix but no frther given, given bump in Cr. Not grossly volume
   overloaded on exam.
   Given prior hx, broadened to meropenem but can consider narrowing if
   remains afebrile, pending Cx data
   -aspiration precautions
   -allow to autodiurese today, if later in day appears positive, consider
   lasix bolus,
   -f/u speech and swallow recs
   -diurese for goal negative 1 L today
   .
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has intermittent periods of lucidity, over
   general course slightl improved.  MS currently limiting ability to take
   p.o . Plan currently to keep NPO except meds, repeat swallow eval early
   next week.
   - continue to follow clinically
   - minimize sedating medications
   .
   # Acute renal failure: hypernatremia, Cr increased y/d in setting lasix
   IV. [**Month (only) 51**] need to give free H20 to correct free h20 deficit today. Cr
   increased to 1.3 yesterday. Now 1.1
   Continue to trend Cr
   .
   # Fever/Pneumonia: Now afebrile for several days. Previously, patient
   was spiking high fevers in spite of Tylenol, antibiotics, and
   improvement of pneumonia. This led to concern about an occult infection
   or non-infectious cause of fever. CT abd/pelvis and CT sinuses were
   negative. TEE showed no vegetation. There was one positive blood cx
   (coag neg staph). This could represent true infection versus
   contaminant.
   - f/u culture data with plan to narrow vs provide HAP with aspiration
   coverage.
   - f/u ID recs
   - f/u pending microbiological studies
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Has been
   diuresing well to lasix boluses.
   - continue to monitor fluid status
   - continue metoprolol [**Hospital1 7**]
   -
   # Coagulopathy: INR markedly elevated y/d. Likely related to
   amiodarone.
   -continue to hold Coumadin until below 2.0 then restart.
   -continue to trend.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: On tube feeds.
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation if patient is cleared by speech and
   swallow.
   ICU Care
   Nutrition: Still not alert enough for speech and swallow. Will hold off
   on feeding tube for now.
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   Prophylaxis:
   DVT: start hep SC, until INR below 2 then start amio
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2141-03-20 07:28:00 Physician Attending Progress Note
TITLE: PHYSICIAN INTERN PROGRESS NOTE
   Chief Complaint:
   Dyspnea and leg swelling
   HPI:
   24 Hour Events:
   - Mental status dramatically improved. Allowed patient to take some PO
   with close nursing supervision. Will get formal speech and swallow
   evaluation on Monday.
   - Dr. [**Last Name (STitle) **] now favoring doing lead extraction/revision on Thursday
   - did not respond to Lasix 40 mg PO, but responded well to Lasix 20 mg
   IV
   - started heparin gtt for subtherapeutic INR
   - repleted free water deficit with D5W
   - this morning pateint states he has been coughing up soe brown sputum
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Meropenem - [**2141-3-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-19**] 06:00 PM
   Heparin Sodium - [**2141-3-19**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-20**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 81 (75 - 83) bpm
   BP: 85/53(61) {84/42(50) - 157/141(144)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 99.6 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,514 mL
                                                                    943 mL
   PO:
                                                                    960 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,554 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                  1,100 mL
   Urine:
                                                                  1,695 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    819 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  2 L
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.  Feet erythematous, capilary changes on skin
   Neuro: Alert, orientation waxing and [**Doctor Last Name 533**].  Initially oriented to
   hospital  ([**Hospital3 **]) and  year. However, repeat questioning later
   during rounds pt was unable to state location at [**Hospital1 19**].  Able to state
   why he is the hospital. Asking to see various equipment/machines in the
   room and not making sense with what he wants it for.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Maculopapular erythematous rash on upper shoulders and chest
   consistent with resolving stages of rash.
   Neurologic: Responds to verbal commands, answers questions:
   Labs / Radiology
   10.0 g/dL
   478 K/uL
   103 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   29 mg/dL
   107 mEq/L
   145 mEq/L
   32.2 %
   7.8 K/uL
        [image002.jpg]
   INR 1.2
   PTT 94.9
   PT 14.3
                             [**2141-3-16**]  05:45 AM
                             [**2141-3-16**]  01:44 PM
                             [**2141-3-17**]  05:02 AM
                             [**2141-3-17**]  05:15 AM
                             [**2141-3-17**]  01:55 PM
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
                             [**2141-3-18**]  05:01 PM
                             [**2141-3-19**]  05:06 AM
                             [**2141-3-19**]  04:37 PM
   WBC
   8.4
   9.1
   11.0
   10.9
   Hct
   33.0
   31.0
   31.4
   33.3
   Plt
   [**Telephone/Fax (3) 14250**]23
   Cr
   0.8
   0.8
   1.2
   1.3
   1.2
   1.1
   1.0
   0.9
   0.9
   TCO2
   31
   Glucose
   152
   131
   201
   124
   126
   130
   428
   126
   118
   Other labs: PT / PTT / INR:15.9/150.0/1.4, CK / CKMB /
   Troponin-T:337/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.3 g/dL, LDH:360 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Imagine: no new images
   Microbiology: Urine culture final [**2141-3-17**]
 no growth
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   .
   # VT/VF/ICD dysfunction: Patient had VT/VF arrest on [**3-12**] during which
   ICD failed to defibrillate him and he required external therapy.
   Subsequently, patient has had multiple runs of VT, including one VT
   arrest which required external defibrillation. Etiology of recent
   increased ectopy thought to be [**1-24**] fast/short sequences, pacer
   settings, and QT prolongation in setting of amiodarone. RV coil was
   found to be fractured.
   -Tentative plans for ICD revision on Thursday pending patient and
   family are in agreement
   -f/u EP recs regarding need for EP procedure/ICD revision
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure. Prior
   to second arrest, patient was satting well on 2L NC. Had increased O2
   requirement after arrest, thought to be related to aspiration
   pneumonitis, but now satting well on 2L NC. This is still above
   baseline as he does not usually use supplemental oxygen.  Heart failure
   less likely etiology of hypoxia and received home dose PO lasix this
   am.  Speech and swallow evaluated this am and recommend PNO for now
   except meds with repeat video swallow study.
   -aspiration precautions
   -Video swallow study
   - F/u speech and swallow recs based on results of video, but for now
   NPO except meds
   -wean O2 as tolerated
   -continue home dose of PO Lasix
   -check PM Is/Os
 if not 1 to 1.5 L negative will give one dose IV 40
   mg lasix as yesterday pt required extra IV dose
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   .
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has had overall marked improvement in past 2
   days.
   - continue to follow clinically
   - minimize sedating medications
   .
   # Fever/Pneumonia: Now afebrile status post completed course of
   antibiotics. Previously, patient was spiking high fevers in spite of
   Tylenol, antibiotics, and improvement of pneumonia. This led to concern
   about an occult infection or non-infectious cause of fever. CT
   abd/pelvis and CT sinuses were negative. TEE showed no vegetation.
   There was one positive blood cx (coag neg staph), thought to be a
   contaminant.  Patient was afebrile from [**Date range (1) 14227**], but spiked one fever
   to 101.8 thought to be related to possible aspiration pneumonitis in
   setting of recent arrest. Has been afebrile since.
   - f/u ID recs
   - f/u pending microbiological studies which currently show no growth.
   Urine cultuire [**3-17**] negative
   - no abx for now except chronic suppressive cefpodoxime therapy for
   history of device infection
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose
   - will check Is/Os and if not 1-1.5 L negative will give extra 40 mg IV
   lasix
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Related to altered mental status/inability to take
   adequate PO.
   - patient was given free water with D5W last night and sodium slightly
   improved, however pt more volume up
   - will consider giving free water if pm labs show worsening
   hypernatremia (and orally if patient can take PO)
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK trending down.
   - holding statin
   - recheck Ck
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, this monring there was concern for aspiration so
   speech and swallow consulted
   - video swallow this afternoon
   - NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient starts to eat.
 VENTRICULAR TACHYCARDIA, SUSTAINED
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   Prophylaxis:
   DVT: heparin gtt, pnuemoboots
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition : call out to floor today
   Total time spent:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the note by Dr. [**Last Name (STitle) 14262**] today.
   I would add the following remarks:
   History
   Mental status markedly improved
 up in chair this AM
   No additional V Tach after pacemaker reprogrammed.
   Medical Decision Making
   Will plan lead extraction on Thursday given marked recovery of his
   sensorium.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2141-3-20**] 20:58 ------

2141-03-21 06:57:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   [**2141-3-20**]
   - EP recommended against calling pt out because he's already had two VT
   arrests and now is without an ICD back-up, code blue response much
   slower on floor than CCU, thus, we did not call him out to the floor
   - speech and swallow evaulated and thought at high aspiration risk.
   recommended NPO and consider PEG
   - [**Name (NI) 461**] HCP wants to talk with Dr. [**Last Name (STitle) 14279**] before any decisions are
   made regarding surgery for ICD revision
   - patient failed video swallow had dobhoff placed
   - nutrition recs to start isosource TF at 25 cc/hr and titrate up to 55
   cc/hr
   - ordered fluoro guided PICC replacement (since was pulled out with
   dressing change) which will happen tomorrow
   - Ca low so added on albumin to labs, is 3.0 - correct to 9.0.
   - Hypotensive to 80s/40s by NBP, but A-line in the past showed higher
   pressures, patient putting out about 50-80 cc urine per hour and
   mentating at baseline. Given past VT, decided to give metoprolol 12.5
   mg then 12.5 mg, instead of 25mg at one time
   - EP recs:
   ICD malfunction: Fidelis RV coil fracture
   -Tentative left sided single lead extraction (Fidelis) and new ICD lead
   placement Thursday with Dr. [**Last Name (STitle) 5152**]
   - NPO Wed evening.  Please type and cross 4 units of PRBC for procedure
   Thurs.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsPenicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-21**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 81 (76 - 84) bpm
   BP: 101/36(53) {71/36(49) - 104/78(82)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,713 mL
                                                                    385 mL
   PO:
                                                                    340 mL
             TF:
                                                                    131 mL
                                                                    251 mL
   IVF:
                                                                    852 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    225 mL
   Urine:
                                                                  1,970 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -257 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   448 K/uL
   10.1 g/dL
   122 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   106 mEq/L
   141 mEq/L
   31.8 %
   6.2 K/uL
        [image002.jpg]
                             [**2141-3-17**]  05:15 AM
                             [**2141-3-17**]  01:55 PM
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
                             [**2141-3-18**]  05:01 PM
                             [**2141-3-19**]  05:06 AM
                             [**2141-3-19**]  04:37 PM
                             [**2141-3-20**]  06:30 AM
                             [**2141-3-20**]  03:31 PM
                             [**2141-3-21**]  03:35 AM
   WBC
   11.0
   10.9
   7.8
   6.2
   Hct
   31.4
   33.3
   32.2
   31.8
   Plt
   521
   523
   478
   448
   Cr
   1.3
   1.2
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   31
   Glucose
   124
   126
   130
   428
   126
   118
   103
   108
   122
   Other labs: PT / PTT / INR:13.6/79.0/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Imaging: No new imaging. Wet read of CXR AP [**2141-3-20**]:
   CP angles excluded. NG tube passes into the stomach and off the
   inferior
   margin of the film. pacer leads unchanged. stable cardiomegally. no
   acute
   cardiopulm process.
   Microbiology: No new growth
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   .
   # VT/VF/ICD dysfunction: Patient had VT/VF arrest on [**3-12**] during which
   ICD failed to defibrillate him and he required external therapy.
   Subsequently, patient has had multiple runs of VT, including one VT
   arrest which required external defibrillation. Etiology of recent
   increased ectopy thought to be [**1-24**] fast/short sequences, pacer
   settings, and QT prolongation in setting of amiodarone. RV coil was
   found to be fractured.
   -Tentative plans for ICD revision on Thursday pending patient and
   family are in agreement
   -f/u EP recs regarding need for EP procedure/ICD revision
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   -Pt to be NPO Wednesday after MN, and will have 4 units crossmatched
   then
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure. Prior
   to second arrest, patient was satting well on 2L NC. Had increased O2
   requirement after arrest, thought to be related to aspiration
   pneumonitis, but now satting well on 2L NC. This is still above
   baseline as he does not usually use supplemental oxygen.  Heart failure
   less likely etiology of hypoxia and received home dose PO lasix this
   am.  Speech and swallow evaluated this am and recommend PNO for now
   except meds with repeat video swallow study.
   -aspiration precautions
   -NPO per speech and swallow
   -Consider surgery consult for PEG once pacer issue is resolved
   -wean O2 as tolerated
   -continue home dose of PO Lasix
   - Add Lasix 40mg IV ONCE today given no response to 40 PO + 20 IV
   -check PM Is/Os
 if not 1 to 1.5 L negative will give one dose IV 40
   mg lasix as yesterday pt required extra IV dose
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   .
   # Hypotension: [**Month (only) 51**] be medication induced versus being hypovolemic. Is
   near his baseline for the past few days, in past ranges from 80s-130s.
   -Monitor
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has had overall marked improvement in past 2
   days.
   - continue to follow clinically
   - minimize sedating medications
   .
   # Fever/Pneumonia: Now afebrile status post completed course of
   antibiotics. Previously, patient was spiking high fevers in spite of
   Tylenol, antibiotics, and improvement of pneumonia. This led to concern
   about an occult infection or non-infectious cause of fever. CT
   abd/pelvis and CT sinuses were negative. TEE showed no vegetation.
   There was one positive blood cx (coag neg staph), thought to be a
   contaminant.  Patient was afebrile from [**Date range (1) 14227**], but spiked one fever
   to 101.8 thought to be related to possible aspiration pneumonitis in
   setting of recent arrest. Has been afebrile since.
   - f/u ID recs
   - f/u pending microbiological studies which currently show no growth.
   Urine cultuire [**3-17**] negative
   - no abx for now except chronic suppressive cefpodoxime therapy for
   history of device infection
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose
   - will check Is/Os and if not 1-1.5 L negative will give extra 40 mg IV
   lasix
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Related to altered mental status/inability to take
   adequate PO.
   - patient was given free water with D5W last night and sodium slightly
   improved, however pt more volume up
   - will consider giving free water if pm labs show worsening
   hypernatremia (and orally if patient can take PO)
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient starts to eat.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-20**] 06:45 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-15**] 08:47 AM
   Prophylaxis:
   DVT: heparin gtt, pnuemoboots
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition : CCU
   Total time spent:

2141-03-22 07:10:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
    71 y/o M with PMHx significant for systolic HF (EF 20-25%), old
   anterior wall MI, paroxysmal AV block, atrial fibrillation, ventricular
   tachycardia, history of ventricular fibrillation in the past, status
   post eventual BiV ICD implantation with subsequent revisions due to the
   presence of malfunctioning Fidelis lead, who presented to the ED this
   morning with a chief complaint of dyspnea. The patient reports that he
   began having a cough productive of dark beige sputum, with some
   low-grade temps at home (Tm 99.8).
   24 Hour Events:
 PICC LINE - STOP [**2141-3-21**] 09:02 AM
 PICC LINE - START [**2141-3-21**] 10:23 AM
   [**2062-3-20**]
   - NGT replaced
 then pulled by patient
   - Increased free water flushes
   - No Dopoff, but managed to give amiodarone and metoprolol. Gave Lasix
   20 mg IV.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-3-21**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-22**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 79 (75 - 82) bpm
   BP: 119/62(75) {82/54(65) - 132/74(85)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,037 mL
                                                                    432 mL
   PO:
             TF:
                                                                    475 mL
                                                                    228 mL
   IVF:
                                                                    323 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    250 mL
   Urine:
                                                                    925 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    112 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Alert, orientation waxing and [**Doctor Last Name 533**].  AOx1, says he
s in [**Location (un) 1047**]
   and has no idea of the date says it
s the 18^th. Was reoriented.
   Labs / Radiology
   424 K/uL
   10.7 g/dL
   120 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   19 mg/dL
   108 mEq/L
   142 mEq/L
   32.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2141-3-17**]  01:55 PM
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
                             [**2141-3-18**]  05:01 PM
                             [**2141-3-19**]  05:06 AM
                             [**2141-3-19**]  04:37 PM
                             [**2141-3-20**]  06:30 AM
                             [**2141-3-20**]  03:31 PM
                             [**2141-3-21**]  03:35 AM
                             [**2141-3-22**]  05:05 AM
   WBC
   11.0
   10.9
   7.8
   6.2
   5.5
   Hct
   31.4
   33.3
   32.2
   31.8
   32.5
   Plt
   521
   523
   478
   448
   424
   Cr
   1.3
   1.2
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   Glucose
   124
   126
   130
   428
   126
   118
   103
   108
   122
   120
   Other labs: PT / PTT / INR:13.9/111.1/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR - dobhoff now in proximal stomach. no other interval
   chnage, though note that lateral left hemithorax is excluded from the
   film.
   Microbiology: [**2141-3-12**] 8:48 pm BLOOD CULTURE      1 OF 2.
                               **FINAL REPORT [**2141-3-18**]**
      Blood Culture, Routine (Final [**2141-3-18**]):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
            SENSITIVITIES PERFORMED ON REQUEST..
      Aerobic Bottle Gram Stain (Final [**2141-3-14**]):
         GRAM POSITIVE COCCI.
         IN PAIRS AND CLUSTERS.
         REPORTED BY PHONE TO DR. [**First Name (STitle) **],[**First Name3 (LF) **] PAGER [**Numeric Identifier 14290**] @ 08:30
   [**2141-3-14**].
   Subsequent blood cultures on [**3-13**],26 - no growth so far.
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   .
   # VT/VF/ICD dysfunction: Patient had VT/VF arrest on [**3-12**] during which
   ICD failed to defibrillate him and he required external therapy.
   Subsequently, patient has had multiple runs of VT, including one VT
   arrest which required external defibrillation. Etiology of recent
   increased ectopy thought to be [**1-24**] fast/short sequences, pacer
   settings, and QT prolongation in setting of amiodarone. RV coil was
   found to be fractured.
   -Tentative plans for ICD revision on Thursday - patient and family are
   in agreement
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   -Pt to be after MN, and will have 4 units crossmatched for procedure
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure.
   Currently resolving, was on room air, but drifts down to high 80s while
   sleeping, possibly related to undiagnosed OSA.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow
   -Consider surgery consult for PEG once pacer issue is resolved
   -wean O2 as tolerated
   -continue home dose of PO Lasix
   - Judge whether further Lasix required
 good output beginning to 20 mg
   IV earlier this a.m.
   - F/u Is/Os
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   .
   # Hypotension: [**Month (only) 51**] be medication induced versus being hypovolemic. Is
   near his baseline for the past few days, in past ranges from 80s-130s.
   Diuresis gently continues, and likely to be safe.
   -Monitor
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has had overall marked improvement in past 2
   days. U/A negative. Abx course for PNA complete. Failed videoswallow so
   NPO for now.
   - continue to follow clinically
   - minimize sedating medications
   - Consider neuropsychological outpatient follow-up
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose when possible
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   # Dysphagia
   Failed video swallow.
   - NPO and consider GI to help with bridled NGT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the note by Dr. [**Last Name (STitle) 6706**] today.
   I would add the following remarks:
   History
   Mental status shows orientation but difficulty sitting upright for
   today
   No additional V Tach
   Dobhoff tube in place for nutrition
   Medical Decision Making
   Lead extraction on Thursday
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2141-3-22**] 17:05 ------

2141-03-23 07:51:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   From HPI admission note:
   "71 y/o M with PMHx significant for systolic HF (EF 20-25%), old
   anterior wall MI, paroxysmal AV block, atrial fibrillation, ventricular
   tachycardia, history of ventricular fibrillation in the past, status
   post eventual BiV ICD implantation with subsequent revisions due to the
   presence of malfunctioning Fidelis lead, who presented to the ED this
   morning with a chief complaint of dyspnea. The patient reports that he
   began having a cough productive of dark beige sputum for the past week.
   He also had some low-grade temps at home (Tm 99.8) earlier this week.
   He called his cardiologist on [**2141-2-28**], complaining of this cough and LE
   edema. He was told to increase his lasix to 60mg TIW and 40 mg daily
   the rest of the week. He then presented to gerontology clinic on
   [**2141-3-1**] with similar complaints. CXR and CBC done that day were
   unremarkable. He then developed dyspnea over the past 24-36 hours. He
   called cardiology clinic this morning and was instructed to present to
   the ED."
   24 Hour Events:
   [**3-23**]
   -Pt still confused
   -Pulled out NG tube a second time on [**3-22**], NG tube replaced again and
   confirmed in correct position
   - NPO for probable lead revision, family aware of high risks involved
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-22**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 81 (75 - 81) bpm
   BP: 114/61(73) {85/44(58) - 118/73(103)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,143 mL
                                                                    162 mL
   PO:
             TF:
                                                                    479 mL
   IVF:
                                                                    323 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    210 mL
   Urine:
                                                                  2,385 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,242 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Alert, orientation waxing and [**Doctor Last Name 533**].  AOx1, says he
s in [**Location (un) 1047**]
   and has no idea of the date says it
s the 18^th. Was reoriented.
   Labs / Radiology
   407 K/uL
   10.5 g/dL
   100 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   20 mg/dL
   109 mEq/L
   143 mEq/L
   32.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2141-3-17**]  08:25 PM
                             [**2141-3-18**]  03:46 AM
                             [**2141-3-18**]  05:01 PM
                             [**2141-3-19**]  05:06 AM
                             [**2141-3-19**]  04:37 PM
                             [**2141-3-20**]  06:30 AM
                             [**2141-3-20**]  03:31 PM
                             [**2141-3-21**]  03:35 AM
                             [**2141-3-22**]  05:05 AM
                             [**2141-3-23**]  03:38 AM
   WBC
   11.0
   10.9
   7.8
   6.2
   5.5
   5.8
   Hct
   31.4
   33.3
   32.2
   31.8
   32.5
   32.2
   Plt
   521
   523
   478
   448
   424
   407
   Cr
   1.2
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   Glucose
   126
   130
   428
   126
   118
   103
   108
   122
   120
   100
   Other labs: PT / PTT / INR:13.9/74.1/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: .
   Imaging: dobhoff reaches the upper stomach, minimally retracted from
   one day prior.
   could be advanced for optimal positioning. no other significant
   interval
   chnage from prior cxr. d.w Dr [**Last Name (STitle) 116**].
   Microbiology: No new.
   ECG: .
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   Plan
   # VT/VF/ICD dysfunction: Patient had VT/VF arrest on [**3-12**] during which
   ICD failed to defibrillate him and he required external therapy.
   Subsequently, patient has had multiple runs of VT, including one VT
   arrest which required external defibrillation. Etiology of recent
   increased ectopy thought to be [**1-24**] fast/short sequences, pacer
   settings, and QT prolongation in setting of amiodarone. RV coil was
   found to be fractured.
   -Tentative plans for ICD revision on Thursday - patient and family are
   in agreement
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   -continue Telemetry
   -if develops VT, will need external therapy as ICD is not functioning
   -Pt to be after MN, and will have 4 units crossmatched for procedure
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure.
   Currently resolving, was on room air, but drifts down to high 80s while
   sleeping, possibly related to undiagnosed OSA.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow
   -Consider surgery consult for PEG once pacer issue is resolved
   -wean O2 as tolerated
   -continue home dose of PO Lasix
   - Judge whether further Lasix required
 good output beginning to 20 mg
   IV earlier this a.m.
   - F/u Is/Os
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   .
   # Hypotension: [**Month (only) 51**] be medication induced versus being hypovolemic. Is
   near his baseline for the past few days, in past ranges from 80s-130s.
   Diuresis gently continues, and likely to be safe.
   -Monitor
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely recent
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has had overall marked improvement in past 2
   days. U/A negative. Abx course for PNA complete. Failed videoswallow so
   NPO for now.
   - continue to follow clinically
   - minimize sedating medications
   - Consider neuropsychological outpatient follow-up
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose when possible
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   # Dysphagia
   Failed video swallow.
   - NPO and consider GI to help with bridled NGT
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status:
   Disposition:

2141-03-24 07:26:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   Worsened CHF
   VT/VF, found to have fractured ICD lead
   24 Hour Events:
 CARDIAC CATH - At [**2141-3-23**] 02:20 PM
   To EPS.
 INVASIVE VENTILATION - START [**2141-3-23**] 03:00 PM
 ARTERIAL LINE - START [**2141-3-23**] 04:00 PM
   [**Date range (1) 14359**]
   - two lead extractions (R ventricular and R atrial) and ICD implant
   without complications
   - returned to floor intubated on propofol
   - hematocrit was stable despite reported blood loss of 450 ccs
   - plan for extubation on [**3-24**]
   - Blood pressure post-procedure 80/51 at 03:30, so gave 500 cc back,
   then another 500 cc
   - No pulsus physiology on arterial line wave-form
   EP recs
   -          Start Coumadin today
   -          Start IV heparin to bridge 24 hrs after procedure
   -          Heparin [**Hospital1 7**] 5000 U SC until IV starts
   -          Make today d1 of cefpodoxime for 7 days post-procedure
   -          Received 1.5 L fluid plus one unit blood in OR (lost about 1
   unit blood)
   Somewhat hypotensive overnight
 improved when propofol stopped.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-24**] 01:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 75 (75 - 84) bpm
   BP: 105/61(76) {71/46(55) - 107/67(82)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,439 mL
                                                                  1,667 mL
   PO:
             TF:
                                                                    205 mL
                                                                     90 mL
   IVF:
                                                                  2,054 mL
                                                                  1,477 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    320 mL
   Urine:
                                                                  1,295 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    494 mL
                                                                  1,347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 564 (553 - 564) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 13 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/41/182/23/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 455
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Alert, orientation waxing and [**Doctor Last Name 533**].  AOx1, says he
s in [**Location (un) 1047**]
   and has no idea of the date says it
s the 18^th. Was reoriented.
   Labs / Radiology
   315 K/uL
   9.8 g/dL
   171
   0.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   16 mg/dL
   110 mEq/L
   138 mEq/L
   31.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2141-3-20**]  03:31 PM
                             [**2141-3-21**]  03:35 AM
                             [**2141-3-22**]  05:05 AM
                             [**2141-3-23**]  03:38 AM
                             [**2141-3-23**]  07:23 PM
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
   WBC
   6.2
   5.5
   5.8
   9.5
   Hct
   31.8
   32.5
   32.2
   31.9
   32.4
   31.6
   Plt
   448
   424
   407
   315
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   TCO2
   28
   26
   Glucose
   108
   122
   120
   100
   88
   193
   171
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR - wet read
   multiple pacer wires. ETT 5-6 cm from carina. no ptx. lungs grossly
   clear.
   heart remains enlarged. ? fullness of left hilum.
   Microbiology: No new.
   ECG: .
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   Plan
   # VT/VF/ICD dysfunction: S/p successful fractured lead removal and now
   new functional ICD lead placement.
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Subsequently,
   patient has had multiple runs of VT, including one VT arrest which
   required external defibrillation. Etiology of recent increased ectopy
   thought to be [**1-24**] fast/short sequences, pacer settings, and QT
   prolongation in setting of amiodarone. RV coil was found to be
   fractured.
   -restart Coumadin
   -heparin SC BID then IV 24hrs after procedure
   -cefpodoxime for one week from today
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   .
   # Intubation: Pt intubed from procedure.
   - Extubate today, stop sedation prior, then afterward try to wean
   pressor
   .
   # Hypoxia: Patient was intubated from [**Date range (1) 14185**] for hypoxemic
   respiratory failure. Etiology likely pneumonia + heart failure.
   Currently resolving, was on room air, but drifts down to high 80s while
   sleeping, possibly related to undiagnosed OSA. Got some 2L or so of
   fluid yesterday.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow
   -Consider surgery consult for PEG once pacer issue is resolved
   -wean O2 as tolerated
   - Judge whether further Lasix required
 good output beginning to 20 mg
   IV earlier this a.m.
   - F/u Is/Os
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   .
   # Hypotension: Most likely [**1-24**] propofol as has improved after weaning
   down propofol.
   -Monitor
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. Pt has had overall marked improvement in past 2
   days. U/A negative. Abx course for PNA complete. Failed videoswallow so
   NPO for now.
   - continue to follow clinically
   - minimize sedating medications
   - Consider neuropsychological outpatient follow-up
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose when possible
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - holding Coumadin; started heparin gtt in anticipation of possible EP
   procedure
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   # Dysphagia
   Failed video swallow.
   - NPO and consider GI to help with bridled NGT
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Arterial Line - [**2141-3-23**] 04:00 PM
   18 Gauge - [**2141-3-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments: Full
   code, but was DNR in context of surgery.
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the note by Dr. [**Last Name (STitle) 6706**] today.
   I would add the following remarks:
   History
   Stable following EPS laser removal of pacer leads yesterday
 new
   pacemaker defibrillator placed without complications.
   Medical Decision Making
   Will maintain in ICU one additional day
   IV Heparin bridge to coumadin
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2141-3-24**] 15:48 ------

2141-03-25 06:50:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   [**3-24**] - [**3-25**]
   - extubated
   - too agitated to get PA/Lat (will need that [**3-25**])
   - very agitated overnight, received ativan IV 0.5 mg x 2
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-25**] 12:41 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 75 (75 - 83) bpm
   BP: 106/57(73) {91/49(63) - 126/69(87)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,363 mL
                                                                    336 mL
   PO:
             TF:
                                                                     90 mL
   IVF:
                                                                  1,993 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    340 mL
   Urine:
                                                                  1,895 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: ///23/
   Ve: 11.4 L/min
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Alert, orientation waxing and [**Doctor Last Name 533**].  AOx1, says he
s in [**Location (un) 1047**]
   and has no idea of the date says it
s the 18th. Was reoriented.
   Labs / Radiology
   309 K/uL
   10.3 g/dL
   132 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   107 mEq/L
   136 mEq/L
   31.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2141-3-21**]  03:35 AM
                             [**2141-3-22**]  05:05 AM
                             [**2141-3-23**]  03:38 AM
                             [**2141-3-23**]  07:23 PM
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
   WBC
   6.2
   5.5
   5.8
   9.5
   8.3
   Hct
   31.8
   32.5
   32.2
   31.9
   32.4
   31.6
   31.1
   Plt
   448
   424
   407
   315
   309
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.7
   TCO2
   28
   26
   Glucose
   122
   120
   100
   88
   193
   171
   132
   Other labs: PT / PTT / INR:14.6/83.2/1.3, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   CXR AP [**2141-3-24**]:
   CHEST, AP: A left chest wall pacemaker is again seen with leads
   overlying the
   right atrium, right ventricle, and coronary sinus. Endotracheal tube
   ends 6
   cm from the carina. There is no pneumothorax or pleural effusion. Mild
   cardiomegaly is unchanged. The hilar and mediastinal contours are
   normal.
   IMPRESSION: ICD lead revision, without complications.
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   Plan
   # VT/VF/ICD dysfunction: S/p successful fractured lead removal and now
   new functional ICD lead placement.
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Subsequently,
   patient has had multiple runs of VT, including one VT arrest which
   required external defibrillation. Etiology of recent increased ectopy
   thought to be [**1-24**] fast/short sequences, pacer settings, and QT
   prolongation in setting of amiodarone. RV coil was found to be
   fractured, now removed and replaced.
   -restarting Coumadin
   -heparin IV weight based protocol bridge to coumadin
   -cefpodoxime for one week from [**2141-3-24**]
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG
   .
   # Hypoxia: Resolving. Patient was intubated from [**Date range (1) 14185**] for
   hypoxemic respiratory failure. Etiology likely pneumonia + heart
   failure. Currently resolving, was on room air, but drifts down to high
   80s while sleeping, possibly related to undiagnosed OSA. Got some 2L or
   so of fluid yesterday.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow
   -Look into speech and swallow evaluations to see if delirium has been
   masking ability to swallow. If not, then consider surgery consult for
   PEG
   -wean O2 as tolerated
   - F/u Is/Os
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   # Altered mental status: Disorientation, waxing and [**Doctor Last Name 533**], reversal of
   sleep/wake cycle characteristic of delirium. Etiology is likely
   intubation (with sedating meds) and ICU environment. No focal
   neurologic deficits. U/A negative. Abx course for PNA complete. Failed
   videoswallow so NPO for now.
   - Frequent reorientation
   - Maintain adequate bowel regimen
   - continue to follow clinically
   - minimize sedating medications
   - Consider neuropsychological outpatient follow-up
   .
   # Chronic systolic heart failure: Patient with EF 20-25%. Currently
   euvolemic.
   - continue PO Lasix at home dose when possible
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - Restarting coumadin; started heparin gtt for bridging
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   # Dysphagia
   Failed video swallow.
   - NPO, tube feeds
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-25**] 02:10 AM
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Arterial Line - [**2141-3-23**] 04:00 PM
   18 Gauge - [**2141-3-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Probable call out to cardiology floor today
   ------ Protected Section ------
   Labs
        [image002.jpg]
   WBC
   Hgb
   Hct (Serum)
   Hct (Whole blood)
   Plt
   INR
   PTT
   Na+
   K + (Serum)
   K + (Whole blood)
   Cl
   HCO3
   BUN
   Creatinine
   Glucose
   CK
   CK-MB
   Troponin T
   O2 sat (mixed venous)
   O2 sat (arterial)
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2141-3-26**] 08:34 ------

2141-03-26 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-3-25**] 03:30 PM
   [**3-25**]
   - continued to have delirium, agitation, restlessness, worse at night
   - gave haldol to control agitation
   - unable to find sitter so kept him in CCU another night given concern
   for significant agitation
   - was negative 1200cc with just his home PO lasix dose (40mg)
   - per review of speech/swallow recs, he is unlikely to regain
   significant swallow function in a timely manner; possibility of PEG
   should be discussed w/ family
   - dc'd art line
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-25**] 12:41 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-26**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 75 (72 - 78) bpm
   BP: 118/68(80) {97/42(57) - 152/68(80)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 96.8 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                    981 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                    681 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    100 mL
   Urine:
                                                                  2,250 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,269 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Somnolent, minimally responsive, pedaling movements of legs when
   in light sleep. Not alert and only oriented to self this a.m.
   Labs / Radiology
   269 K/uL
   10.5 g/dL
   119 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   32.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2141-3-22**]  05:05 AM
                             [**2141-3-23**]  03:38 AM
                             [**2141-3-23**]  07:23 PM
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
   WBC
   5.5
   5.8
   9.5
   8.3
   6.0
   Hct
   32.5
   32.2
   31.9
   32.4
   31.6
   31.1
   32.7
   Plt
   [**Telephone/Fax (3) 14409**]09
   269
   Cr
   0.8
   0.9
   0.8
   0.8
   0.7
   0.6
   TCO2
   28
   26
   Glucose
   120
   100
   88
   193
   171
   132
   119
   Other labs: PT / PTT / INR:13.3/32.8/1.1, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: .
   Imaging: CXR [**3-24**]
   CHEST, AP: A left chest wall pacemaker is again seen with leads
   overlying the
   right atrium, right ventricle, and coronary sinus. Endotracheal tube
   ends 6
   cm from the carina. There is no pneumothorax or pleural effusion. Mild
   cardiomegaly is unchanged. The hilar and mediastinal contours are
   normal.
   IMPRESSION: ICD lead revision, without complications.
   Microbiology: Nothing since [**3-12**] - coag. negative staph thought to be
   contaminant
   ECG: .
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring debrillation and reintubation, and
   runs of VT, including one VT arrest.
   Plan
   # VT/VF/ICD dysfunction: S/p successful fractured lead removal and now
   new functional ICD lead placement.
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Subsequently,
   patient has had multiple runs of VT, including one VT arrest which
   required external defibrillation. Etiology of recent increased ectopy
   thought to be [**1-24**] fast/short sequences, pacer settings, and QT
   prolongation in setting of amiodarone. RV coil was found to be
   fractured, now removed and replaced.
   -restarting Coumadin
   -heparin IV weight based protocol bridge to coumadin
   -cefpodoxime for one week from [**2141-3-24**]
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG (avoid Haldol)
   # Mental Status
   Delirium markedly exacerbated by many psychotropics and sedatives. D/w
   geriatrics today. They also feel that there is baseline hypoxic injury
   with likely superimposed neurodegenerative disease. Given possibility
   of [**Last Name (un) **] Body Disease, they recommend not using Haldol or ativan, but
   instead using Seroquel or, if this is not possible, then Zydis. Avoid
   Haldol because of likely underlying disease and
   arrhythmogenicity/prolonged QT. Also taper Paxil because elderly and
   has significant RLS/PLMD.
   - per [**Female First Name (un) **]. Team
 Seroquel 12.5 mg QAM then 12.5 Q6H PRN agitation
   making sure not to score limb movements as agitation.
   - Taper Paxil once discussed why he is on this (there may be a good
   reason)
   - Avoid Haldol and ativan
   - Use Zydis 2.5 mg wafer if cannot given Serquel.
   # Hypoxia
   Resolving
 doing well on nasal canula. Patient was intubated from
   [**Date range (1) 14185**] for hypoxemic respiratory failure. Etiology likely pneumonia
   + heart failure. Currently resolving, was on room air, but drifts down
   to high 80s while sleeping, possibly related to undiagnosed OSA. Got
   some 2L or so of fluid yesterday.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow, but reevaluate given Dopoff removed again.
   -If delirium has not been cause of dysphagia then consider surgery
   consult for PEG (per Geriatrics)
   -wean O2 as tolerated
   - F/u Is/Os
   -no abx for now (except cefpodoxime, which patient takes chronically as
   outpt) as patient was felt to have aspiration pneumonitis rather than
   true pneumonia and ABX course completed for PNA.
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic.
   - continue PO Lasix at home dose when possible
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol
   .
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - Restarting coumadin; started heparin gtt for bridging
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   # Dysphagia
   Failed video swallow.
   - NPO, tube feeds
   - Will need to consider PEG in future
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-3-25**] 02:10 AM
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2141-3-27**] 13:21 ------

2141-03-27 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - evaluated by geriatrics yesterday who recommended serroquel for
   agitation
   - received seroquel + Zydis with improvement in delirium/agitation
   overnight, however quite somnolent in the am
   - able to take some applesauce last night
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-25**] 12:41 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 75 (73 - 77) bpm
   BP: 94/54(63) {91/44(58) - 123/80(84)} mmHg
   RR: 21 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 92.6 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,163 mL
                                                                     98 mL
   PO:
             TF:
                                                                    741 mL
   IVF:
                                                                    422 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    145 mL
   Urine:
                                                                  2,040 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -877 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN: NAD.
   CV: RRR (occasional premature beats)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP. No edema.
   Neuro: Somnolent, minimally responsive, pedaling movements of legs when
   in light sleep. Not alert and only oriented to self this a.m.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   319 K/uL
   11.2 g/dL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   141 mEq/L
   35.6 %
   5.4 K/uL
        [image002.jpg] mg 2.1         ca 9.1      mg 2.1    INR 1.2   PTT
   82.3
                             [**2141-3-23**]  03:38 AM
                             [**2141-3-23**]  07:23 PM
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
                             [**2141-3-27**]  04:00 AM
   WBC
   5.8
   9.5
   8.3
   6.0
   5.4
   Hct
   32.2
   31.9
   32.4
   31.6
   31.1
   32.7
   35.6
   Plt
   [**Telephone/Fax (3) 14414**]69
   319
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   0.8
   TCO2
   28
   26
   Glucose
   100
   88
   193
   171
   132
   119
   116
   Other labs: PT / PTT / INR:14.4/82.3/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   MICROBIOLOGY:
   Urine cx [**3-25**] pending
   RADIOLOGY
   Chest X ray
   The position of the lines of the ICD device is unchanged. No
   pneumothorax is
   present. The lung fields are clear. The endotracheal tube has been
   removed.
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring defibrillation and reintubation,
   and runs of VT, including one VT arrest.
   Plan
   # VT/VF/ICD dysfunction: S/p successful fractured lead removal and now
   new functional ICD lead placement.
   Patient had VT/VF arrest on [**3-12**] during which ICD failed to
   defibrillate him and he required external therapy.  Subsequently,
   patient has had multiple runs of VT, including one VT arrest which
   required external defibrillation. Etiology of recent increased ectopy
   thought to be [**1-24**] fast/short sequences, pacer settings, and QT
   prolongation in setting of amiodarone. RV coil was found to be
   fractured, now removed and replaced on [**2141-3-21**].
   -cefpodoxime for one week from [**2141-3-24**]
   -f/u EP recs, appreciate their input
   -continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   -monitor QTC on EKG (avoid Haldol)
   #hypotension: This am pt noted to have hypotension with SBPs in the
   high 60
s upon sitting in chair.  Concern for tampenade given recent
   lead revision.  However, pulsus was 10 mm hg which is baseline for the
   patient.  STAT echo obtained showed no evidence of  effusion.  Pt given
   250 cc NS and BP corrected to 90s.  Likely etiology is intravascular
   depletion in setting of poor PO intake.
   - continue to monitor BP
   - small boluses PRN
   - hold lasix
   - BP holding parameters on metoprolol
   # Mental Status
   Delirium markedly exacerbated by many psychotropics and sedatives. D/w
   geriatrics and appreciate their recommendations.  The patient likely
   had hypoxic injury, ICU delirium, with possible undderlying
   neurodegenerative disease. Given possibility of [**Last Name (un) **] Body Disease, they
   recommended not using Haldol or ativan, but instead using Seroquel or,
   if this is not possible, then Zydis. Avoid Haldol because of likely
   underlying disease and arrhythmogenicity/prolonged QT. Also taper Paxil
   because of the anticholinergic properties. Last night the patient
   agitation was improved with seroquel, however he was heavily sedated
   this am.  Of note, we should make sure not to score limb movements
   (restless legs) as agitation.
   - decrease Seroquel to 6.25 (if possible) for standing dose before
   bedtime with repeat x 1 if no result within 1 hour
   - if pt requires more sedation overnight may try PRN seroquel, or if
   unable to give may try zydis x 1 PRN
   - try to avoid sedation during the day to preserve better sleep/wake
   cycle
   - Taper paxil to 20 mg q day
   - Avoid Haldol and ativan
   # Dysphagia
   Failed video swallow on multiple occasions.  Had NGT but removed
   several times by patient.  Mental status improving and pt tolerated
   applesauce last night.  However, failed repeat swallow study this am.
   - consider PEG tube for short term nutrition as pt has potential to
   improve with time once ICU delirium/mental status improves
   - NPO except meds
   # Hypoxia
   Resolving
 doing well on nasal canula. Patient was intubated from
   [**Date range (1) 14185**] for hypoxemic respiratory failure from pneumonia + heart
   failure.  Reintubated for pacemaker revision.  Was on room air, but
   drifts down to high 80s while sleeping, possibly related to undiagnosed
   OSA.
   -Wean O2 as tolerated
   -aspiration precautions
   -NPO per speech and swallow
   - F/u Is/Os
   -no abx for now (except cefpodoxime for one week as above)
   # Atrial fibrillation: Pt with a history of a.fib, for which he is on
   coumadin.
   - metoprolol [**Hospital1 7**]
   - Continue coumadin
   - continue heparin gtt until bridged (INR 1.2)
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic.
   - holding PO lasix given hypotension this am
   - f/u Is/Os
   - continue metoprolol [**Hospital1 7**]
   .
   # Hypernatremia: Normalized.
   .
   # Elevated CK: Likely caused by statin (possibly exacerbated by
   concurrent azithromycin therapy).  CK normalized.
   - holding statin for now, but may consider restarting different [**Doctor Last Name **]
   .
   # CORONARIES: Pt has a history of an anterior wall MI in [**2126**]. Of note,
   the patient did report some chest pressure previously, but this has
   since resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol (with holding parameters given
   hypotension)
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   ICU Care
   Nutrition: NPO, except meds
   - considering PEG tube
   Glycemic Control:  insulin SS
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT: hep gtt, coumadin
   Stress ulcer:
   Communication:  Comments: [**Name (NI) 461**] (HCP)
   [**Name (NI) 36**] status:  full code
   Disposition: CCU for now, consider transfer to LTAC
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 14262**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2141-3-29**] 14:47 ------

2141-03-28 07:03:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, decompensated heart failure
   24 Hour Events:
   - had hypotension in morning tat responded to IV bolus, 250 cc NS
   - STAT echo obtained to r/o ventricular perforation --> no evidence
   - required PM bolus for hypotension to 60s, 500 cc NS
   - talked with geriatrics who recommend continue seroquel standing dose
   at night to promote sleep, and then PRN throughout the day.  (both 6.25
   mg seroquel)
   - Also decreased paxil from 30 to 20
   - talked with surgery about a PEG, but they recommend a bridled DH tube
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2141-3-27**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 76 (72 - 90) bpm
   BP: 82/49(58) {63/32(45) - 116/81(85)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 89.9 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,540 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                  1,540 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    220 mL
   Urine:
                                                                  1,215 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: NAD. Elderly man.
   HEENT: Arcus senilius, no icterus, MM dry.
   CV: R (occasional ectopy)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND
   Lines: Foley in place..
   Ext: WWP. No edema.
   Neuro: Alert and oriented to person and place this a.m. (improvement).
   Less sedated this a.m. Moving limbs purposively. Gait not evaluated.
   Labs / Radiology
   306 K/uL
   11.3 g/dL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   141 mEq/L
   36.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2141-3-23**]  07:23 PM
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
                             [**2141-3-27**]  04:00 AM
                             [**2141-3-28**]  05:34 AM
   WBC
   9.5
   8.3
   6.0
   5.4
   5.6
   Hct
   31.9
   32.4
   31.6
   31.1
   32.7
   35.6
   36.1
   Plt
   [**Telephone/Fax (3) 14442**]19
   306
   Cr
   0.8
   0.8
   0.7
   0.6
   0.8
   TCO2
   28
   26
   Glucose
   88
   193
   171
   132
   119
   116
   Other labs: PT / PTT / INR:14.4/82.3/1.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Echo [**3-27**]
   IMPRESSION: Moderately dilated left ventricular cavity with severe
   global systolic dysfunction accompanied by thinning and akinesis of the
   basal and mid anteroseptal walls and an apical aneurysm. Biatrial
   enlargement. Mild mitral regurgtitation. Mild tricuspid regurgitation.
   Borderline pulmonary artery systolic hypertension. No echocardiographic
   evidence of pericardial tamponade.
   Compared with the prior study (images reviewed) of [**2140-8-22**], the
   findings are similar.
   Microbiology: No new growth (only growth is coag - staph on [**3-3**]
   thought to be contaminant.
   ECG: .
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring defibrillation and reintubation,
   and runs of VT, including one VT arrest.
   Plan
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic, perhaps slightly low
   intravascular given recent hypotension.
   - Holding PO lasix given recent hypotension and NPO
   - F/u Is/Os
   - Continue metoprolol [**Hospital1 7**]
   # Hypotension
   Low blood pressure yesterday a.m. and then later in the day
 responded
   to small boluses. No tampenade physiology
 normal echo and pulsus of
   10 mmHg. Likely due to being NPO.
   - continue to monitor BP
   - small boluses PRN, rather than maintenance fluids
   - hold lasix
   - BP holding parameters on metoprolol
   # VT/VF/AF/
   ICD dysfunction with fractured lead, now successfully replaced for dual
   chamber. Paced continually now. Patient had VT/VF arrest on [**3-12**] during
   which ICD failed to defibrillate him and he required external therapy.
   Some VT following. Etiology of recent increased ectopy thought to be
   [**1-24**] fast/short sequences, pacer settings, and QT prolongation in
   setting of amiodarone. Now not a problem. Past-history of AF,
   non-active, but given apical akinesis, should definitely be
   anticoagulated. RV coil was found to be fractured, now removed and
   replaced on [**2141-3-21**].
   - cefpodoxime for one week from [**2141-3-24**]
   - f/u EP recs, appreciate their input
   - continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   - monitor QTC on EKG (avoid Haldol)
   - metoprolol [**Hospital1 7**]
   - Restarting Coumadin, bridged with heparin gtt
   # Mental Status
   Patient has evidence of ischemic injury on CT (white matter hypodense
   in watershed between ACA and MCA left posterior frontal. Some frontal
   release on exam (grasp). Some mild dysarthria with dysphagia, per S&S
   (see below). Delirium markedly exacerbated by many psychotropics and
   sedatives. D/w geriatrics and appreciated their recommendations.  The
   patient likely had hypoxic injury, ICU delirium, with possible
   underlying neurodegenerative disease. Given possibility of [**Last Name (un) **] Body
   Disease, they recommended not using Haldol or ativan, but instead using
   Seroquel or, if this is not possible, then Zydis. Avoid Haldol because
   of likely underlying disease and arrhythmogenicity/prolonged QT. Also
   taper Paxil because of its anticholinergic properties and exacerbation
   of akathisia. Initial dose of seroquel was very sedating (12.5) so
   halved and standing dose shifted from am to pm.  Of note, we should
   make sure not to score limb movements (restless legs) as agitation.
   - Seroquel to 6.25 mg PO QPM with repeat x 1 if no result within 1 hour
   - if pt requires more sedation overnight may try PRN seroquel, or if
   unable to give may try zydis x 1 PRN
   - try to avoid sedation during the day to preserve better sleep/wake
   cycle
   - Taper paxil to 20 mg q day
   - Avoid Haldol and Ativan
   - Talk to Dr. [**Last Name (STitle) 14448**] about pre-admission mental status
   # Dysphagia and dysarthria
   Dysarthria may suggest that dysphagia likely to show little recovery.
   Failed video swallow on multiple occasions.  Had NGT but removed five
   times by patient.  Mental status improving and pt tolerated applesauce
   last night.  However, failed repeat swallow study yesterday. Reluctant
   to place PEG, as not good long-term solution (aspiration risk just as
   high as swallowing), but will talk to electrophysiologist (Dr.
   [**Last Name (STitle) 5758**] who knows the patient well and can likely comment on
   neurologic function at baseline.
   - D/w Dr. [**Last Name (STitle) 14449**]
   - Consider PEG versus bridled NGT (depending on above concerns) for
   short term nutrition as pt has potential to improve with time once ICU
   delirium/mental status improves
   - NPO except meds
   .
   # Coronary Artery Disease
   Pt has a history of an anterior wall MI in [**2126**]. Of note, the patient
   did report some chest pressure previously, but this has since
   resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol (with holding parameters given
   hypotension)
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6706**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2141-3-29**] 14:46 ------

2141-03-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-28**] - [**3-29**]
   - Emailed Drs. [**Last Name (STitle) 5758**] and [**Name5 (PTitle) 3723**] about Neurologic status
   - Consensus is to try PEG tube. GI to see pt on [**2141-3-29**]. Holding
   warfarin in anticipation. Pt already NPO as no tube in place.
   - Taking pudding and apple sauce without difficulty.
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 80 (69 - 111) bpm
   BP: 99/55(66) {74/49(44) - 121/83(76)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 89.9 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                    875 mL
                                                                    580 mL
   PO:
             TF:
   IVF:
                                                                    875 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    195 mL
   Urine:
                                                                    600 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GEN: NAD. Elderly man.
   HEENT: Arcus senilius, no icterus, MM dry.
   CV: R (occasional ectopy)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND
   Lines: Foley in place..
   Ext: WWP. No edema.
   Neuro: Alert and oriented to person and place this a.m. (improvement).
   Less sedated this a.m. Moving limbs purposively. Gait not evaluated.
   Labs / Radiology
   320 K/uL
   10.7 g/dL
   96 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   142 mEq/L
   32.6 %
   5.5 K/uL
        [image002.jpg]
                             [**2141-3-23**]  07:40 PM
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
                             [**2141-3-27**]  04:00 AM
                             [**2141-3-28**]  05:34 AM
                             [**2141-3-29**]  05:07 AM
   WBC
   9.5
   8.3
   6.0
   5.4
   5.6
   5.5
   Hct
   32.4
   31.6
   31.1
   32.7
   35.6
   36.1
   32.6
   Plt
   [**Telephone/Fax (2) 14457**]
   Cr
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   TCO2
   28
   26
   Glucose
   193
   171
   132
   119
   116
   112
   96
   Other labs: PT / PTT / INR:28.9/108.0/2.8, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new.
   Microbiology: No new.
   ECG: .
   Assessment
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring defibrillation and reintubation,
   and runs of VT, including one VT arrest.
   Plan
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic, perhaps slightly low
   intravascular given recent hypotension.
   - Holding PO lasix given recent hypotension and NPO
   - F/u Is/Os
   - Continue metoprolol [**Hospital1 7**]
   # Hypotension
   Low blood pressure yesterday a.m. and then later in the day
 responded
   to small boluses. No tampenade physiology
 normal echo and pulsus of
   10 mmHg. Likely due to being NPO.
   - continue to monitor BP
   - small boluses PRN, rather than maintenance fluids
   - hold lasix
   - BP holding parameters on metoprolol
   # VT/VF/AF/
   ICD dysfunction with fractured lead, now successfully replaced for dual
   chamber. Paced continually now. Patient had VT/VF arrest on [**3-12**] during
   which ICD failed to defibrillate him and he required external therapy.
   Some VT following. Etiology of recent increased ectopy thought to be
   [**1-24**] fast/short sequences, pacer settings, and QT prolongation in
   setting of amiodarone. Now not a problem. Past-history of AF,
   non-active, but given apical akinesis, should definitely be
   anticoagulated. RV coil was found to be fractured, now removed and
   replaced on [**2141-3-21**].
   - cefpodoxime for one week from [**2141-3-24**]
   - f/u EP recs, appreciate their input
   - continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   - monitor QTC on EKG (avoid Haldol)
   - metoprolol [**Hospital1 7**]
   - Restarting Coumadin, bridged with heparin gtt
   # Mental Status
   Patient has evidence of ischemic injury on CT (white matter hypodense
   in watershed between ACA and MCA left posterior frontal. Some frontal
   release on exam (grasp). Some mild dysarthria with dysphagia, per S&S
   (see below). Delirium markedly exacerbated by many psychotropics and
   sedatives. D/w geriatrics and appreciated their recommendations.  The
   patient likely had hypoxic injury, ICU delirium, with possible
   underlying neurodegenerative disease. Given possibility of [**Last Name (un) **] Body
   Disease, they recommended not using Haldol or ativan, but instead using
   Seroquel or, if this is not possible, then Zydis. Avoid Haldol because
   of likely underlying disease and arrhythmogenicity/prolonged QT. Also
   taper Paxil because of its anticholinergic properties and exacerbation
   of akathisia. Initial dose of seroquel was very sedating (12.5) so
   halved and standing dose shifted from am to pm.  Of note, we should
   make sure not to score limb movements (restless legs) as agitation.
   - Seroquel to 6.25 mg PO QPM with repeat x 1 if no result within 1 hour
   - if pt requires more sedation overnight may try PRN seroquel, or if
   unable to give may try zydis x 1 PRN
   - try to avoid sedation during the day to preserve better sleep/wake
   cycle
   - Taper paxil to 20 mg q day
   - Avoid Haldol and Ativan
   - Talk to Dr. [**Last Name (STitle) 14448**] about pre-admission mental status
   # Dysphagia and dysarthria
   Dysarthria may suggest that dysphagia likely to show little recovery.
   Failed video swallow on multiple occasions.  Had NGT but removed five
   times by patient.  Mental status improving and pt tolerated applesauce
   last night.  However, failed repeat swallow study yesterday. Reluctant
   to place PEG, as not good long-term solution (aspiration risk just as
   high as swallowing), but will talk to electrophysiologist (Dr.
   [**Last Name (STitle) 5758**] who knows the patient well and can likely comment on
   neurologic function at baseline.
   - D/w Dr. [**Last Name (STitle) 14449**]
   - Consider PEG versus bridled NGT (depending on above concerns) for
   short term nutrition as pt has potential to improve with time once ICU
   delirium/mental status improves
   - NPO except meds
   .
   # Coronary Artery Disease
   Pt has a history of an anterior wall MI in [**2126**]. Of note, the patient
   did report some chest pressure previously, but this has since
   resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol (with holding parameters given
   hypotension)
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   .
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   .
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - Strict NPO except meds for now
   - Holding pancreatic enzyme supplementation for now. Will need to
   restart enzyme supplementation once patient has NGT again.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility, likely
   tomorrow.

2141-03-30 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - passed swallow eval, no PEG, outpt providers updated
   - coumadin restarted at 2 mg daily (home dose 2 mg daily; 4 mg QMon)
   - IVF bolus for SBP 80s
   - being screened for rehab
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 75 (72 - 86) bpm
   BP: 112/76(84) {74/10(28) - 130/76(84)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 89.9 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  1,814 mL
                                                                    311 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,454 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    340 mL
   Urine:
                                                                    500 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,314 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GEN: NAD. Elderly man.
   HEENT: no icterus, MM dry.
   CV:)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND
   Lines: Foley in place..
   Ext: WWP. No edema.
   Neuro: Alert and oriented to person and place this a.m., states he is
   going to rehab.
   Labs / Radiology
   294 K/uL
   10.3 g/dL
   124 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.6 mEq/L
   15 mg/dL
   108 mEq/L
   141 mEq/L
   32.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-3-24**]  12:52 AM
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
                             [**2141-3-27**]  04:00 AM
                             [**2141-3-28**]  05:34 AM
                             [**2141-3-29**]  05:07 AM
                             [**2141-3-30**]  05:20 AM
   WBC
   9.5
   8.3
   6.0
   5.4
   5.6
   5.5
   5.9
   Hct
   32.4
   31.6
   31.1
   32.7
   35.6
   36.1
   32.6
   32.2
   Plt
   [**Telephone/Fax (3) 14457**]
   294
   Cr
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   0.8
   TCO2
   26
   Glucose
   193
   171
   132
   119
   116
   112
   96
   124
   Other labs: PT / PTT / INR:33.2/81.1/3.4, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring defibrillation and reintubation,
   and runs of VT, including one VT arrest. These issues are now resolved,
   with pacer wire replacement and no fevers for some time. He has pulled
   his NGT five times and we were considering PEG, but he fortunately
   passed speech and swallow this a.m. His mental status continues to
   improve, but while NPO had had some small amount of asymptomatic
   hypotension to systolic pressure in the 80s. This improved with fluids.
   He is now ready for rehabilitation.
   Plan
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic, perhaps slightly low
   intravascular given recent hypotension.
   - Holding PO lasix given recent hypotension
   - F/u Is/Os
   - Continue metoprolol [**Hospital1 7**] with holding parameters
   # Hypotension
   Low blood pressure yesterday a.m. and then later in the day
 responded
   to small boluses. No tampenade physiology
 normal echo and pulsus of
   10 mmHg. Likely due to being NPO.
   - continue to monitor BP
   - small boluses PRN, rather than maintenance fluids
   - hold lasix
   - BP holding parameters on metoprolol
   - Encourage POs
   # supratheraputic INR:  Also on hep gtt.  [**Month (only) 51**] be from Amiodarone
   interaction.  Pt also received 3 mg a day for 2 days which is above
   baseline regimen of 2 mg a day.
   -          INR 3.4 today, unclear why so elevated.  Possibly from poor
   nutrition.
   -          Stop hep gtt
   -          Decrease Coumadin to 2 mg q day
   # VT/VF/AF/
   ICD dysfunction with fractured lead, now successfully replaced for dual
   chamber. Paced continually now. Patient had VT/VF arrest on [**3-12**] during
   which ICD failed to defibrillate him and he required external therapy.
   Some VT following. Etiology of recent increased ectopy thought to be
   [**1-24**] fast/short sequences, pacer settings, and QT prolongation in
   setting of amiodarone. Now not a problem. Past-history of AF,
   non-active, but given apical akinesis, should definitely be
   anticoagulated. RV coil was found to be fractured, now removed and
   replaced on [**2141-3-21**].
   - clarify length of cefpodoxime (for one week from [**2141-3-24**] vs life?)
   - f/u EP recs, appreciate their input
   - continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   - monitor QTC on EKG (avoid Haldol)
   - metoprolol [**Hospital1 7**]
   - Restarted Coumadin
   # Mental Status
   High cognitive ability at baseline and rapidly improving. Drs. [**Last Name (STitle) 3723**]
   and [**Name5 (PTitle) 5758**] thought PEG would be warranted given likely recovery,
   but now does not need this given passing speech and swallow.
   # Dysphagia and dysarthria
   Passed [**2141-3-29**] swallow
   -Pureed (dysphagia); Nectar prethickened liquids
   - calorie counts
   # Coronary Artery Disease
   Pt has a history of an anterior wall MI in [**2126**]. Of note, the patient
   did report some chest pressure previously, but this has since resolved.
    MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol (with holding parameters given
   hypotension)
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - restarted diet
   - restart pancreatic enzyme supplementation
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:  pureed diet and nectar  thickened liquids
   Lines: PIV
   Prophylaxis:
   DVT: coumadin
   Communication:  [**Name (NI) 461**] HCP
   [**Name (NI) 36**] status: full
   Disposition: D/.C to LTAC
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 14262**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2141-3-30**] 15:37 ------

2141-03-31 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ***has bed at [**Hospital1 894**], needs to be discharged at 10 am***
   - got extra dose of seroquel overnight for agitatio006E
   Allergies:
   Penicillins
   Hives; Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-31**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 74 (68 - 83) bpm
   BP: 82/50(57) {82/48(56) - 120/76(84)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 89.9 kg (admission): 105 kg
   Height: 72 Inch
                  Total In:
                                                                  1,209 mL
                                                                    480 mL
   PO:
                                                                  1,120 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     89 mL
   Blood products:
   Total out:
                                                                    615 mL
                                                                      0 mL
   Urine:
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    594 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GEN: NAD. Elderly man.
   HEENT: no icterus, MM dry.
   CV:)  Soft s1 and s2. No M/G/R.
   Chest: CTAB.
   Abd: +BS. Soft. NT/ND
   Lines: Foley in place..
   Ext: WWP. No edema.
   Neuro: Alert and oriented to person and place this a.m., states he is
   going to rehab.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   9.8 g/dL
   107 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   30.1 %
   10.0 K/uL
         [image002.jpg]
                             [**2141-3-24**]  05:15 AM
                             [**2141-3-24**]  05:25 AM
                             [**2141-3-24**]  06:00 AM
                             [**2141-3-25**]  05:31 AM
                             [**2141-3-26**]  05:33 AM
                             [**2141-3-27**]  04:00 AM
                             [**2141-3-28**]  05:34 AM
                             [**2141-3-29**]  05:07 AM
                             [**2141-3-30**]  05:20 AM
                             [**2141-3-31**]  04:55 AM
   WBC
   9.5
   8.3
   6.0
   5.4
   5.6
   5.5
   5.9
   10.0
   Hct
   31.6
   31.1
   32.7
   35.6
   36.1
   32.6
   32.2
   30.1
   Plt
   [**Telephone/Fax (3) 14483**]64
   Cr
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   26
   Glucose
   193
   171
   132
   119
   116
   112
   96
   124
   107
   Other labs: PT / PTT / INR:31.5/36.2/3.2, CK / CKMB /
   Troponin-T:187/1/0.10, ALT / AST:224/204, Alk Phos / T Bili:92/0.7,
   Differential-Neuts:85.5 %, Lymph:7.8 %, Mono:4.4 %, Eos:2.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:360 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   71 y/o M with PMHx significant for systolic HF (EF 20-25%), MI in '[**26**],
   paroxysmal AV block, atrial fibrillation, h/o v.tach and v.fib s/p ICD
   implantation, who presented to the ED with a chief complaint of
   dyspnea, initially thought to be due to CHF exacerbation but
   subsequently attributed to pneumonia in setting of infiltrate, fever,
   white count. Hospital course complicated by high fevers, ICD
   malfunction, VT/VF arrest requiring defibrillation and reintubation,
   and runs of VT, including one VT arrest. These issues are now resolved,
   with pacer wire replacement and no fevers for some time. He has pulled
   his NGT five times and we were considering PEG, but he fortunately
   passed speech and swallow this a.m. His mental status continues to
   improve, but while NPO had had some small amount of asymptomatic
   hypotension to systolic pressure in the 80s. This improved with fluids.
   He is now ready for rehabilitation.
   Plan
   # Chronic systolic heart failure
   Patient with EF 20-25%. Currently euvolemic, perhaps slightly low
   intravascular given recent hypotension.
   - Holding PO lasix given recent hypotension
   - F/u Is/Os
   - Continue metoprolol [**Hospital1 7**] with holding parameters
   # Hypotension
   Low blood pressure yesterday a.m. and then later in the day
 responded
   to small boluses. No tampenade physiology
 normal echo and pulsus of
   10 mmHg. Likely due to being NPO.
   - continue to monitor BP
   - small boluses PRN, rather than maintenance fluids
   - hold lasix
   - BP holding parameters on metoprolol
   - Encourage POs
   # supratheraputic INR:  Also on hep gtt.  [**Month (only) 51**] be from Amiodarone
   interaction.  Pt also received 3 mg a day for 2 days which is above
   baseline regimen of 2 mg a day.
   -          INR 3.4 today, unclear why so elevated.  Possibly from poor
   nutrition.
   -          Stop hep gtt
   -          Decrease Coumadin to 2 mg q day
   # VT/VF/AF/
   ICD dysfunction with fractured lead, now successfully replaced for dual
   chamber. Paced continually now. Patient had VT/VF arrest on [**3-12**] during
   which ICD failed to defibrillate him and he required external therapy.
   Some VT following. Etiology of recent increased ectopy thought to be
   [**1-24**] fast/short sequences, pacer settings, and QT prolongation in
   setting of amiodarone. Now not a problem. Past-history of AF,
   non-active, but given apical akinesis, should definitely be
   anticoagulated. RV coil was found to be fractured, now removed and
   replaced on [**2141-3-21**].
   - clarify length of cefpodoxime (for one week from [**2141-3-24**] vs life?)
   - f/u EP recs, appreciate their input
   - continue current amiodarone dose 200mg daily,  metoprolol 25mg [**Hospital1 7**]
   - monitor QTC on EKG (avoid Haldol)
   - metoprolol [**Hospital1 7**]
   - Restarted Coumadin
   # Mental Status
   High cognitive ability at baseline and rapidly improving. Drs. [**Last Name (STitle) 3723**]
   and [**Name5 (PTitle) 5758**] thought PEG would be warranted given likely recovery,
   but now does not need this given passing speech and swallow.
   # Dysphagia and dysarthria
   Passed [**2141-3-29**] swallow
   -Pureed (dysphagia); Nectar prethickened liquids
   - calorie counts
   # Coronary Artery Disease
   Pt has a history of an anterior wall MI in [**2126**]. Of note, the patient
   did report some chest pressure previously, but this has since
   resolved.  MI ruled out with 3 sets of cardiac enzymes.
   - continue aspirin, metoprolol (with holding parameters given
   hypotension)
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   # Anemia: Pt with a history of anemia, baseline Hct of approx. 33-35.
   Hct gradually trending down. No evidence of bleeding.
   - continue iron supplementation
   - continue to trend hct
   # S/p Whipple: Was on tube feeds and did trial of PO as mental status
   improving.  However, there was concern for aspiration so speech and
   swallow consulted
   - restarted diet
   - restart pancreatic enzyme supplementation
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPHAGIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-21**] 10:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: